2196-06-05 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2196-6-4**] 05:55 PM
 ARTERIAL LINE - START [**2196-6-4**] 07:30 PM
 MULTI LUMEN - START [**2196-6-4**] 07:48 PM
 BLOOD CULTURED - At [**2196-6-4**] 08:00 PM
 ULTRASOUND - At [**2196-6-4**] 10:23 PM
   Gall blader and liver
 EKG - At [**2196-6-5**] 03:00 AM
 BLOOD CULTURED - At [**2196-6-5**] 04:44 AM
   - transiently off neo, but had to be restarted to maintain MAP above 60
   - given 3L <D5W w/3 amp bicarb>
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2196-6-4**] 08:15 PM
   Metronidazole - [**2196-6-4**] 10:31 PM
   Ampicillin/Sulbactam (Unasyn) - [**2196-6-5**] 04:05 AM
   Levofloxacin - [**2196-6-5**] 04:06 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 1.2 mcg/Kg/min
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-6-4**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-5**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.1
C (100.6
   HR: 77 (77 - 124) bpm
   BP: 98/60(74) {80/52(60) - 143/80(99)} mmHg
   RR: 24 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (14 - 25)mmHg
   Total In:
                                                                 12,913 mL
                                                                  2,852 mL
   PO:
   TF:
   IVF:
                                                                    913 mL
                                                                  2,852 mL
   Blood products:
   Total out:
                                                                    222 mL
                                                                      5 mL
   Urine:
                                                                     22 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 12,691 mL
                                                                  2,847 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.28/25/92.[**Numeric Identifier 641**]/9/-12
   Ve: 16.5 L/min
   PaO2 / FiO2: 186
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   73 K/uL
   13.5 g/dL
   141 mg/dL
   3.4 mg/dL
   9 mEq/L
   4.9 mEq/L
   51 mg/dL
   116 mEq/L
   138 mEq/L
   39.1 %
   20.2 K/uL
        [image002.jpg]
                             [**2196-6-4**]  07:05 PM
                             [**2196-6-4**]  07:46 PM
                             [**2196-6-4**]  11:48 PM
                             [**2196-6-5**]  02:22 AM
                             [**2196-6-5**]  02:28 AM
                             [**2196-6-5**]  03:56 AM
                             [**2196-6-5**]  05:09 AM
   WBC
   18.1
   20.3
   20.2
   Hct
   40.7
   40.5
   39.1
   Plt
   120
   79
   73
   Cr
   2.7
   3.4
   TCO2
   12
   12
   10
   12
   Glucose
   95
   96
   141
   Other labs: PT / PTT / INR:28.8/63.0/2.9, ALT / AST:271/223, Alk Phos /
   T Bili:139/8.0, Amylase / Lipase:247/53, Differential-Neuts:57.0 %,
   Band:26.0 %, Lymph:0.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:149 mg/dL,
   Lactic Acid:4.5 mmol/L, Albumin:2.8 g/dL, LDH:403 IU/L, Ca++:6.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR: Bilatral infiltrates more so at bases, ET tube,
   subclavian and NG appropriately placed
   Abd Us: The gallbladder wall is thickened to 1 cm, but the gallbladder
   is
   decompressed. There is no intra or extrahepatic biliary dilation. There
   is no
   hydronephrosis.
   Microbiology: bcx [**6-4**]: NGTD
   OSH BCX: NGTD
   Assessment and Plan
 .H/O ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY,
   [**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SHOCK, SEPTIC
   ASSESSMENT AND PLAN
   88 yo M with acute onset of respiratory distress and septic shock
   shortly after receiving BCG treatment for bladder CA.
   #. Resp Failure: Pt has ARDS secondary to a systemic inflammatory
   response from either sepsis or a systemic rxn to BCG as below.
   Curently Vt at 8cc/kg, will transition to 7cc/kg; continue PEEP at 10
   as this improved his prolonged expiratory phase.  ecrease FiO2 to 0.5
   from 0.6 given last ABG.  No plan to wean currently given his high
   pressor dependence and tenous clinical status.
   .
   #. Septic Shock/ Urosepsis/ BCG rxn: Pt
s hx of repeat septic
   physiology after BCG treatment x 2 is suggestive of either repeat
   seeding from a urinary source or repeat BCG reaction.  Biliary source
   unlikely as below. Previously, he was treated for presumed urosepsis
   given that enterococcus was growing in his urine during the [**2196-3-20**]
   hospitalization.  Prolonged systemic inflammatory  respponse To BCG has
   been described and fit with pt
s presentation: increased severity of
   second episode would be c/w sensitization during first dose.
   -- Given his possible hx of enterococcal urosepsis, will continue
   ampicillin/sulbactam (d1=[**6-4**]) and levoflox (d1=[**6-4**]) for double  GN
   coverage; urosepsis still most likely cause
   -- Levoflox has added benefit of also treating  m.bovis which sometimes
   acts as a pathogen s/p intravesicular BCG
   -- Vancomycin for Gram + covg given multiple line placed at OSH and
   foreign body insetion during cystoscopy
   -- continue aggressive volume repletion with <D5W+3AMP BICARB> despite
   normal CVP, Hct still suggests hemoconcentration and third spacing
   -- consult ID regarding mgt of possible BCG role in his presentation
   and specifically whether there would be a role for targeted Abx therapy
   against m.bovis, activated APC, and indications/contraindications for
   steroids
   -- echo as voltages on EKG progressively low and heart sounds distatnt,
   need to r/o effusion
   .
   # Renal Failure:  Secondary to septis. GFR continues to fall, UOP
   minimal overnight
   -- Dosing Vanco / levo renally, with vanco trough to be checked on [**6-6**]
   -- urine lytes pending
   -- attempt to increase UOP with fluids
   --consult renal as he may require CVVH soon
   .
   #. Transaminitis, elevated Bili: Seen by ERCP b/c initial concern at
   OSH over LFTs. Transaminitis on the lower end of what would be expected
   for shock liver. Dbili>Indirect suggestive of cholestasis, but
   margianlly elevated AlkP and lack of stones or biliary dilation on US,
   argue strongly that source if not biliary.  Liver failure likely [**2-22**]
   shock.
   n        ERCP will not be pursued, monitor LFTs and bili
   n        Coagulopathy and low fibrinogen likely secondary to liver
   failure and not necessarily indicative of DIC, nevertheless, wil
   monitor DIC  labs
   .
   #. Transient Neutropenia at OSH: fits with severe sepsis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-6-4**] 07:30 PM
   Multi Lumen - [**2196-6-4**] 07:48 PM
   20 Gauge - [**2196-6-4**] 07:49 PM
   Prophylaxis:
   DVT: pneumoboots (no sqh given plt fall:120
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Dr [**Known lastname 5999**] is still pressor depedent although FiO2/ PEEP needs have not
   worsened. He remains well sedated on the ventilator with minimal urine
   output. He has developed worsening jaundice. His belly is soft but
   there is ecchymosis around the ankles.
   Exam notable for Tm of 99.8 BP 137/55 HR 74 RR with sats of 97% on 50%/
   10 PEEP. PPV is less than 10
   Labs notable for WBC  20.2K, HCT 39 , K+ 4.9 , C 3.4r , lactate of 5.1.
   LFTS have shown decreasing transaminitis but rising bilirubin. CXR with
   bilateral effusions and cardiomegaly , EKG is low voltage but with no
   ischemic change .
   The concern regarding severe SIRS from BCG or disseminated
   mycobacterial infection ( live attenuated strain) with multiorgan
   failure persist. He is starting to develop a coagulopathy from sepsis/
   liver failure. His USG does not reveal a dilated GB and I doubt ERCP
   would have much to benefit him.
   Agree with plan to continue aggresive hemodynamic suppport with fluids
   ( HCO3 containing) and wean pressors. Wil d/w ID regarding steroids for
   hemodynamic issues and antibiotic choices. He will need access for CVVH
   soon as his renal function is unlikely to improve on pressors and
   acidosis and volume will become problem[**Name (NI) **]. [**Name2 (NI) **] remains a full code.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2196-6-5**] 14:50 ------

2196-06-06 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2196-6-5**] 08:00 AM
   - ID:  started treatment for M Bovis INH, rifampin + vanc/zosyn for
   broad coverage
   - TTE:  trivial effusion, no tamponade
   - d/w ERCP:  no need for ERCP currently
   - d/w renal:  need to start FFP for INR <2, platelets >50 for HD line
   for likely CVVH tomorrow
   - aiming for MAP ~100 because mental status seems to improve with that,
   also lactate improving
   - got 1 unit platelets
   - following DIC labs
   - lactate (peaked at 5.3) now falling
   - started insulin SS for FS 200s
   - ABG still looks bad:  increasing FiO2 and PEEP-->now on 60% FiO2,
   PEEP 15
   - esophageal balloon pressure to tailor PEEP
did compliance curve and
   found that optimal PEEP was actually 10
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-6-4**] 08:15 PM
   Metronidazole - [**2196-6-4**] 10:31 PM
   Levofloxacin - [**2196-6-5**] 04:06 AM
   Vancomycin - [**2196-6-5**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2196-6-5**] 09:55 AM
   Rifampin - [**2196-6-5**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-6-5**] 05:00 PM
   Isoniazid - [**2196-6-5**] 05:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-6-5**] 08:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-6**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 79 (76 - 99) bpm
   BP: 131/81(102) {78/52(61) - 167/103(128)} mmHg
   RR: 24 (24 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 20 (10 - 348)mmHg
   Total In:
                                                                  8,280 mL
                                                                  1,155 mL
   PO:
   TF:
   IVF:
                                                                  8,082 mL
                                                                    578 mL
   Blood products:
                                                                    198 mL
                                                                    577 mL
   Total out:
                                                                     41 mL
                                                                      0 mL
   Urine:
                                                                     41 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,239 mL
                                                                  1,155 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (430 - 600) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.42/27/61/15/-4 at 0430
   Ve: 14.7 L/min
   PaO2 / FiO2: 87
   Physical Examination
   Labs / Radiology
   85 K/uL
   12.5 g/dL
   138 mg/dL
   3.8 mg/dL
   15 mEq/L
   4.1 mEq/L
   54 mg/dL
   102 mEq/L
   134 mEq/L
   35.8 %
   26.3 K/uL
        [image002.jpg]
                             [**2196-6-5**]  11:31 AM
                             [**2196-6-5**]  12:40 PM
                             [**2196-6-5**]  04:55 PM
                             [**2196-6-5**]  05:18 PM
                             [**2196-6-5**]  08:09 PM
                             [**2196-6-5**]  10:59 PM
                             [**2196-6-6**]  12:39 AM
                             [**2196-6-6**]  01:54 AM
                             [**2196-6-6**]  03:40 AM
                             [**2196-6-6**]  04:30 AM
   WBC
   18.4
   22.0
   31.6
   26.3
   Hct
   34.5
   36.5
   39.5
   35.8
   Plt
   36
   29
   22
   85
   Cr
   3.2
   3.5
   3.7
   3.8
   TCO2
   18
   20
   18
   16
   16
   18
   Glucose
   354
   317
   180
   138
   Other labs: PT / PTT / INR:22.3/63.3/2.1, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:162/101, Alk Phos / T Bili:160/8.7,
   Amylase / Lipase:247/53, Differential-Neuts:57.0 %, Band:26.0 %,
   Lymph:0.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:157 mg/dL, Lactic
   Acid:3.9 mmol/L, Albumin:1.7 g/dL, LDH:390 IU/L, Ca++:6.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.6 mg/dL
   Lactate:  5.5
   Tbili:  7.0
   LFTs:  AST:  326 (admit)
101, ALT: 366
   .
   MICRO:
   [**6-5**]:  blood, urine, and mycolytic cultures pending
   TTE:
   Urgent study with limited views performed by on-call cardiology fellow
   to exclude tamponade or severe left ventricular dysfunction as etiology
   for profound hypotension. Suboptimal image quality.
   There is mild global left ventricular hypokinesis (LVEF = 45-50 %). Due
   to suboptimal technical quality, a focal wall motion abnormality cannot
   be fully excluded. Right ventricular chamber size and free wall motion
   appear normal. The number of aortic valve leaflets cannot be
   determined. No aortic regurgitation is seen. The mitral valve leaflets
   are structurally normal. There is no mitral valve prolapse. Trivial
   mitral regurgitation is seen. There is a trivial/physiologic
   pericardial effusion.
   IMPRESSION: Suboptimal image quality. Trivial pericardial effusion with
   no evidence of tamponade physiology. Mild left ventricular dysfunction
   that appears global, though a focal wall-motion abnormality cannot be
   fully excluded. No primary cardiac etiology for hypotension identified.
   Assessment and Plan
 .H/O ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY,
   [**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SHOCK, SEPTIC
   ASSESSMENT AND PLAN
   88 yo M with acute onset of respiratory distress and septic shock
   shortly after receiving BCG treatment for bladder CA.
   #. Resp Failure: Pt has ARDS secondary to a systemic inflammatory
   response from either sepsis or a systemic rxn to BCG as below.
   Curently Vt at 8cc/kg, will transition to 7cc/kg; continue PEEP at 10
   as this improved his prolonged expiratory phase.  ecrease FiO2 to 0.5
   from 0.6 given last ABG.  No plan to wean currently given his high
   pressor dependence and tenous clinical status.
   .
   #. Septic Shock/ Urosepsis/ BCG rxn: Appreciate ID input.  Currently on
   rifampin + INF + zosyn + vancomycin.
   Pt
s hx of repeat septic physiology after BCG treatment x 2 is
   suggestive of either repeat seeding from a urinary source or repeat BCG
   reaction.  Biliary source unlikely as below. Previously, he was treated
   for presumed urosepsis given that enterococcus was growing in his urine
   during the [**2196-3-20**] hospitalization.  Prolonged systemic
   inflammatory  respponse To BCG has been described and fit with pt
   presentation: increased severity of second episode would be c/w
   sensitization during first dose.
   -- Given his possible hx of enterococcal urosepsis, will continue
   ampicillin/sulbactam (d1=[**6-4**]) and levoflox (d1=[**6-4**]) for double  GN
   coverage; urosepsis still most likely cause
   -- Levoflox has added benefit of also treating  m.bovis which sometimes
   acts as a pathogen s/p intravesicular BCG
   -- Vancomycin for Gram + covg given multiple line placed at OSH and
   foreign body insetion during cystoscopy
   -- continue aggressive volume repletion with <D5W+3AMP BICARB> despite
   normal CVP, Hct still suggests hemoconcentration and third spacing
   -- consult ID regarding mgt of possible BCG role in his presentation
   and specifically whether there would be a role for targeted Abx therapy
   against m.bovis, activated APC, and indications/contraindications for
   steroids
   -- echo as voltages on EKG progressively low and heart sounds distatnt,
   need to r/o effusion
   .
   # Renal Failure:  Secondary to septis. GFR continues to fall, UOP
   minimal overnight
   -- Dosing Vanco / levo renally, with vanco trough to be checked on [**6-6**]
   -- urine lytes pending
   -- attempt to increase UOP with fluids
   --consult renal as he may require CVVH soon
   .
   #. Transaminitis, elevated Bili: Seen by ERCP b/c initial concern at
   OSH over LFTs. Transaminitis on the lower end of what would be expected
   for shock liver. Dbili>Indirect suggestive of cholestasis, but
   margianlly elevated AlkP and lack of stones or biliary dilation on US,
   argue strongly that source if not biliary.  Liver failure likely [**2-22**]
   shock.
   n        ERCP will not be pursued, monitor LFTs and bili
   n        Coagulopathy and low fibrinogen likely secondary to liver
   failure and not necessarily indicative of DIC, nevertheless, wil
   monitor DIC  labs
   .
   #. Transient Neutropenia at OSH: fits with severe
   ICU Care
   Nutrition: NPO, nutrition consult for TF recommendations
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-6-4**] 07:30 PM
   Multi Lumen - [**2196-6-4**] 07:48 PM
   22 Gauge - [**2196-6-5**] 10:01 AM
   Prophylaxis:
   DVT:  pneumoboots (no SC heparin given coagulopathy)
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-06-07 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2196-6-6**] 12:00 PM
 ARTERIAL LINE - STOP [**2196-6-7**] 12:00 AM
   - Surgery consulted for ? ischemic colitis given rising lactate,
   abdominal tenderness.  D/w family and surgery led to decline of any
   surgical intervention and imaging
   - Temporary dialysis line placed on [**6-6**]
   - Started on CVVH
   - Lost A-line, could not replace due to edema
   - Had to go up on pressors briefly (but at same level as was at
   yesterday)
   - PEEP went up from 10 to 12 (improvement in paO2 to 90
s from 60
   - Cultures remain negative
   - CVVP running even currently (unable to take anything off)
   SCROTAL ULTRASOUND
   Hypoechoic nodules in the upper pole of the right testicle.
   Differential includes tumor or phlegmon. No evidence of epididymitis.
   Bilateral hydroceles.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-6-4**] 08:15 PM
   Metronidazole - [**2196-6-4**] 10:31 PM
   Levofloxacin - [**2196-6-5**] 04:06 AM
   Vancomycin - [**2196-6-5**] 08:00 AM
   Rifampin - [**2196-6-5**] 04:00 PM
   Isoniazid - [**2196-6-5**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-6-7**] 04:27 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.24 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Phenylephrine - Off
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-6-6**] 08:36 PM
   Hydrocortisone 100mg IV Q8H
   Pyridoxine x 1
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to obtain (patient intubated and sedated)
   Flowsheet Data as of  [**2196-6-7**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.7
   HR: 69 (69 - 92) bpm
   BP: 118/77(87) {66/37(35) - 134/91(101)} mmHg
   RR: 20 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 20 (14 - 280) mmHg
   Bladder pressure: 21 (21 - 21) mmHg
   Total In:
                                                                  2,973 mL
                                                                    854 mL
   PO:
   TF:
   IVF:
                                                                  1,823 mL
                                                                    854 mL
   Blood products:
                                                                  1,150 mL
   Total out:
                                                                    202 mL
                                                                    742 mL
   Urine:
                                                                     74 mL
                                                                      3 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,771 mL
                                                                    112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/32/95.[**Numeric Identifier **]/17/-6
   Ve: 10.4 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General:  intubated, sedated, not responsive to voice; bear hugger in
   place
   HEENT:  [**Location (un) 136**] secretions from NGT, facial and neck edema
   Heart:  regular, distant heart sounds
   Lungs:  clear anteriorly, bilateral vent sounds
   Abdomen: Not rigid, abdominal wall edema, high-pitched bowel sounds
   Ext:  2+ non-pitting edema diffusely, extremities warm, palpable
   purpura bilaterally
   Labs / Radiology
   18 K/uL
   11.9 g/dL
   74 mg/dL
   4.2 mg/dL
   17 mEq/L
   4.2 mEq/L
   52 mg/dL
   99 mEq/L
   134 mEq/L
   34.5 %
   23.1 K/uL
        [image002.jpg]
                             [**2196-6-6**]  06:58 AM
                             [**2196-6-6**]  10:54 AM
                             [**2196-6-6**]  11:16 AM
                             [**2196-6-6**]  01:59 PM
                             [**2196-6-6**]  02:08 PM
                             [**2196-6-6**]  05:32 PM
                             [**2196-6-6**]  05:44 PM
                             [**2196-6-6**]  10:36 PM
                             [**2196-6-7**]  05:29 AM
                             [**2196-6-7**]  05:30 AM
   WBC
   23.6
   25.8
   22.9
   23.0
   23.1
   Hct
   32.2
   32.7
   30.6
   33.1
   34.5
   Plt
   35
   32
   26
   20
   18
   Cr
   4.0
   4.1
   4.2
   TCO2
   17
   17
   16
   16
   19
   Glucose
   105
   84
   80
   74
   Other labs: PT / PTT / INR:15.4/88.9/1.4, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:124/73, Alk Phos / T Bili:181/11.0,
   Amylase / Lipase:247/53, Differential-Neuts:57.0 %, Band:26.0 %,
   Lymph:0.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:182 mg/dL, Lactic
   Acid:5.2 mmol/L, Albumin:2.5 g/dL, LDH:317 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Imaging:
   CXR: ETT in place. Left subclavian terminating in SVC. Cardiac
   silhouette is enlarged, bilateral pleural effusions, likely some
   congestion.
   Scrotal Ultrasound: Hypoechoic nodules in the upper pole of the right
   testicle. Differential includes tumor or phlegmon. No evidence of
   epididymitis. Bilateral hydroceles.
   Microbiology: [**6-5**], [**6-6**] Cx Pending
   Assessment and Plan
   88yM with acute onset of respiratory distress and septic shock shortly
   after receiving BCG treatment for bladder cancer, currently on two
   pressors.
   #. Septic Shock / Urosepsis / BCG reaction: His systemic inflammatory
   reaction may be secondary to a disseminated infection (perhaps BCG) or
   may be a cytokine storm response to the treatment, although duration of
   response point more toward sepsis than pure cytokine storm.  Appreciate
   ID input.  Currently on rifampin + INH to treat disseminated
   mycobacteria as well as piperacillin/tazobactam + vancomycin for broad
   coverage.  Also, corticosteroids started on [**6-5**] for a possible
   inflammatory component.  In terms of overall prognosis, he is neither
   especially improved nor especially worse; hematocrit still rising
   suggestive of ongoing third spacing c/w clinical picture of high degree
   of edema. All cultures negative thus far.
   - Continue to treat atypical mycobacteria with INH and rifampin; one
   dose of pyridoxine given yesterday
   - Continue broad-spectrum coverage with vancomycin and zosyn
   - Continue hydrocortisone for anti-inflammatory action particularly
   with consideration of possibility of pure inflammatory response to BCG;
   value in sepsis is controversial but if useful, would be useful in
   severe cases like this one
   - Scrotal US suggests phlegmon vs tumor; will touch base with urology
   re: drainage and culture
   - Change out OSH line today if possible (not done yesterday); likely
   not the most significant of his problems but could contribute
   - Aim for CVP >10, follow abdominal/bladder pressures
   - Continue CVVH with fluid removal to try to reduce edema, mobilize
   third space fluid into vascular space if possible, however, still
   running positive at this point
   - Elevated abdominal pressures, will follow this; third space effect vs
   abdominal process; surgery has seen the patient, and in conjunction
   with family, have decided not to pursue imaging or surgical
   intervention
   #. Respiratory Failure: ARDS secondary to a systemic inflammatory
   response from either sepsis or cytokine storm.  [**Month (only) 11**] also have a
   component of volume overload at this point.  Currently tidal volume
   approx 7 cc/kg per ARDSnet protocol.  Esophageal balloon helpful in
   allowing us to titrate PEEP.  ABG still with hypoxia, although improved
   with increasing PEEP to 12.
   - Continue ventilator support with 7 cc/kg tidal volume
   - Follow esophageal pressures to guide PEEP
   #. Hypotension:  Currently requiring 2 pressors, improved somewhat from
   3-pressor requirement yesterday.
   - Continue norepinephrine and vasopressin
   - Wean norepinephrine as tolerated
   - Replace A-line if possible today
   #. Renal Failure:  Currently anuric, creatinine rising. CVVH line
   placed; CVVH is ongoing, started last night; not yet running negative.
   - Will gently remove fluid  with CVVH as blood pressures tolerate
   # DIC:  he has laboratory evidence of DIC
   - Follow q4h DIC labs
   - Replete with cryoprecipitate to fibrinogen >100
   - Transfuse for Hct >25
   - Transfuse platelets > 50 for a procedure
   #. Abnormal LFTs:  Bilirubin still rising.  Transaminitis improved. No
   stones or billiard dilation on US, and low suspicion for cholangitis as
   the cause of sepsis.  Discussed with ERCP on [**6-5**] and decided not to
   pursue for now (continue to follow)
   - Fractionate bilirubin
   - Trend LFTs
   - Re-check right upper quadrant ultrasound
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   Multi Lumen - [**2196-6-4**] 07:48 PM
   22 Gauge - [**2196-6-5**] 10:01 AM
   Dialysis Catheter - [**2196-6-6**] 12:00 PM
   - Needs replacement of A-line
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code for now, will talk to family re : code status
   Disposition:ICU

2196-06-08 06:18:00 Physician Resident Progress Note
Chief Complaint: Septic/inflammatory physiology s/p BCG for bladder CA
   [**11**] Hour Events:
   Code status changed to DNR after discussion w pt's wife and children
   1 unit platelets given in advance of A-line placement
 ARTERIAL LINE - START [**2196-6-7**] 10:00 PM
   A-line BPs higher than cuff BPs, allowing some reduction of pressor
   dose
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2196-6-5**] 09:55 AM
   Rifampin - [**2196-6-5**] 04:00 PM
   Isoniazid - [**2196-6-5**] 05:00 PM
   Vancomycin - [**2196-6-7**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-6-8**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Flowsheet Data as of  [**2196-6-8**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 70 (64 - 80) bpm
   BP: 122/73(93) {95/62(13) - 153/96(119)} mmHg
   RR: 20 (19 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 15 (8 - 20)mmHg
   Bladder pressure: 15 (15 - 18) mmHg
   Total In:
                                                                  5,431 mL
                                                                  2,363 mL
   PO:
   TF:
   IVF:
                                                                  5,193 mL
                                                                  2,363 mL
   Blood products:
                                                                    238 mL
   Total out:
                                                                  5,188 mL
                                                                  2,796 mL
   Urine:
                                                                     16 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    243 mL
                                                                   -433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/32/107/19/-1
   Ve: 9.8 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, diffuse edema
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Decreased
   Labs / Radiology
   22 K/uL
   11.3 g/dL
   101 mg/dL
   2.0 mg/dL
   19 mEq/L
   3.8 mEq/L
   34 mg/dL
   96 mEq/L
   132 mEq/L
   31.6 %
   17.9 K/uL
        [image002.jpg]
                             [**2196-6-7**]  05:29 AM
                             [**2196-6-7**]  05:30 AM
                             [**2196-6-7**]  11:29 AM
                             [**2196-6-7**]  11:31 AM
                             [**2196-6-7**]  05:37 PM
                             [**2196-6-7**]  05:38 PM
                             [**2196-6-7**]  10:15 PM
                             [**2196-6-7**]  11:21 PM
                             [**2196-6-8**]  04:10 AM
                             [**2196-6-8**]  04:23 AM
   WBC
   23.1
   20.7
   20.2
   18.9
   17.9
   Hct
   34.5
   32.5
   30.9
   29.3
   31.6
   Plt
   18
   12
   11
   43
   22
   Cr
   3.8
   3.2
   2.0
   TCO2
   19
   21
   22
   Glucose
   74
   85
   93
   114
   101
   Other labs: PT / PTT / INR:14.3/40.1/1.2, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:98/58, Alk Phos / T Bili:188/10.7,
   Amylase / Lipase:247/53, Differential-Neuts:57.0 %, Band:26.0 %,
   Lymph:0.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:134 mg/dL, Lactic
   Acid:4.0 mmol/L, Albumin:2.4 g/dL, LDH:289 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Microbiology: Blood & Urine Cx pending ([**Date range (1) 6048**])
   Imaging: Abdominal U/S: (Wet Read): Thickening and edema in the
   gallbladder wall (in pt with low albumin) and
   sludge, however it is collapsed without evidence of stones, appearance
   is not suggestive of acute cholecystitis. No intra- or extra-hepatic
   bil. ductal dilatation.  Nl. hepatopedal flow in the main portal vein.
   CXR: Bilateral basilar haziness, diaphragms blurred
   Assessment and Plan
   88yM with acute onset of respiratory distress and septic shock shortly
   after receiving BCG treatment for bladder cancer.
   #. Septic Shock / Urosepsis / BCG reaction ?disseminated M. bovis:
   Rifampin + INH to treat disseminated mycobacteria , pyridoine
   Zosyn/ Vanc broad spectrum
   Corticosteroids, one additional day
   F/U Scrotal U/S, d/w urology no further intervention at this time
   CVVH
   #. Respiratory Failure: ARDS
   - Continue ventilator support, PRVC mode.
   #. Hypotension:  Currently norepinephrine and vasopressin. A-line in
   place, coming down on this as possible though will aim to remove fluid
   with pressor help.
   #. Renal Failure:  Currently anuric, creatinine improving. CVVH line
   placed; CVVH is ongoing, started last night; not yet running negative.
   # DIC:  he has laboratory evidence of DIC, low platelets.
   - Follow q6h CBCs with CRRT labs/ DIC labs q2h
   - Replete with cryoprecipitate to fibrinogen >100
   - Transfuse for Hct >25
   - Transfuse platelets > 50 for a procedure
   #. Abnormal LFTs:  Elevated but resolving. Ddx includes sepsis, INH.
   Case reports of granulomatous hepatitis with m bovis but no e/o of this
   best we can tell. Continuing inh.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2196-6-4**] 07:48 PM
   22 Gauge - [**2196-6-5**] 10:01 AM
   Dialysis Catheter - [**2196-6-6**] 12:00 PM
   Arterial Line - [**2196-6-7**] 10:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:  VAP Bundle
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   ------ Protected Section ------
   Exam should note that bowel sounds are hypoactive.
   Remains intubated/sedated.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1833**] [**Last Name (NamePattern1) 1772**], MD
   on:[**2196-6-8**] 09:42 ------

2196-06-09 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**Hospital 327**] Hospital without growth on cultures
   - Started pyridoxine 10mg IV daily
   - Changed INH/rifampin PO to levoflox/rifampin IV
   - Decreased FiO2 to 40%, PEEP to 10, RR to 16
   - Became transiently hypertensive/bradycardic with cryo (given for
   fibrinogen 101)
   - Family decided not to change subclavian line
   - New afib, with RVR in the early evening. Initially gave back fluids,
   later loaded with amio
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-6-8**] 07:24 AM
   Levofloxacin - [**2196-6-8**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-6-9**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Norepinephrine - 0.11 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Fentanyl - [**2196-6-8**] 02:22 PM
   Midazolam (Versed) - [**2196-6-8**] 02:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-9**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.3
C (97.3
   HR: 92 (65 - 136) bpm
   BP: 116/80(94) {93/55(70) - 152/93(299)} mmHg
   RR: 16 (16 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 13 (13 - 19)mmHg
   Total In:
                                                                  9,841 mL
                                                                  2,674 mL
   PO:
   TF:
   IVF:
                                                                  9,773 mL
                                                                  2,674 mL
   Blood products:
                                                                     68 mL
   Total out:
                                                                  8,040 mL
                                                                  2,140 mL
   Urine:
                                                                      5 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,801 mL
                                                                    534 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/32/114/21/0
   Ve: 7.9 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: Edematous gentleman with multiple tubes, lines in
   place
   Cardiovascular: S1 & S2 irregular and fast without murmur
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, diffuse edema
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Decreased
   Labs / Radiology
   15 K/uL
   10.5 g/dL
   140 mg/dL
   1.9 mg/dL
   21 mEq/L
   3.7 mEq/L
   29 mg/dL
   100 mEq/L
   135 mEq/L
   29.6 %
   18.8 K/uL
        [image002.jpg]
                             [**2196-6-8**]  09:45 AM
                             [**2196-6-8**]  10:00 AM
                             [**2196-6-8**]  03:28 PM
                             [**2196-6-8**]  03:30 PM
                             [**2196-6-8**]  03:57 PM
                             [**2196-6-8**]  06:07 PM
                             [**2196-6-8**]  09:24 PM
                             [**2196-6-8**]  09:40 PM
                             [**2196-6-9**]  03:37 AM
                             [**2196-6-9**]  03:53 AM
   WBC
   18.3
   19.8
   14.3
   18.8
   Hct
   28.5
   29.4
   26.1
   29.6
   Plt
   16
   16
   12
   15
   Cr
   2.0
   1.9
   1.9
   TCO2
   23
   22
   23
   24
   23
   Glucose
   111
   118
   134
   140
   Other labs: PT / PTT / INR:14.0/38.6/1.2, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:72/49, Alk Phos / T Bili:187/10.7,
   Amylase / Lipase:247/53, Differential-Neuts:90.0 %, Band:0.0 %,
   Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:117 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.4 g/dL, LDH:253 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: ET Tube 3cm from carina.  Diffuse & bilateral opacities
   Microbiology: BCx [**Date range (1) 6083**] Pending (NGTD)
   Assessment and Plan
   88yM with acute onset of respiratory distress and septic shock shortly
   after receiving BCG treatment for bladder cancer.
   #. Septic Shock / Urosepsis / BCG reaction ?disseminated M. bovis: The
   patient remains hypotensive requiring Norepinephrine and Vasopressin
   albeit in lower doses than the day prior.  Our goal is to maximize CVVH
   fluid removal rather than wean pressors.  The patient
s WBC is again
   elevated with low grade temperatures concerning for fever given the
   hypothermic effect of CVVH.
   - Continue Norepi & Vasopressin as necessary to tolerate CVVH
   - Rifampin + Levofloxacin IV with ongoing corticosteroids to treat
   disseminated ? M. Bovis
   - Zosyn/ Vanc broad spectrum coverage
   - Continue CVVH
   #. Respiratory Failure: ARDS secondary to sepsis
   - Continue ventilator support, PRVC mode.
   #. Renal Failure:  Currently anuric, creatinine stable at 1.9. CVVH
   ongoing with goal -1.2 L today.
   # DIC:  Currently resolved after an episode of hypertension/bradycardia
   during cryoprecipitate infusion.
   - Q12 Hct, Fibrinogen, Coags
   - Replete with cryoprecipitate to fibrinogen >100
   - Transfuse for Hct >25
   - Transfuse platelets > 50 for a procedure
   #. Abnormal LFTs:  Elevated but resolving. Ddx includes sepsis, INH.
   Case reports of granulomatous hepatitis with m bovis but no e/o of this
   best we can tell.
   - Trend
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2196-6-4**] 07:48 PM
   22 Gauge - [**2196-6-5**] 10:01 AM
   Dialysis Catheter - [**2196-6-6**] 12:00 PM
   Arterial Line - [**2196-6-7**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ------ Protected Section ------
   Addendum to Plan:
   Atrial Fibrillation: The patient developed Atrial fibrillation with
   rapid rate overnight, likely from fluid overload.  We have started an
   amiodarone loading drip which has been successful in rate control.
   - Continue Amiodarone drip
   - Fluid removal  as above
   Nutrition: Will start tube feeds once patient has a BM.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3288**], MD
   on:[**2196-6-9**] 15:32 ------

2196-06-10 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Amio stopped after converted to sinus brady
   - Difficulty with CVVH o/n, had to change machines, not fluid down
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-6-9**] 08:00 AM
   Levofloxacin - [**2196-6-9**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-6-10**] 04:17 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2196-6-9**] 04:00 PM
   Fentanyl - [**2196-6-9**] 04:00 PM
   Pantoprazole (Protonix) - [**2196-6-9**] 07:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-10**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 64 (55 - 115) bpm
   BP: 155/81(110) {96/59(74) - 155/89(110)} mmHg
   RR: 13 (10 - 16) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 11 (7 - 17)mmHg
   CO/CI (Fick): (16.1 L/min) / (7.9 L/min/m2)
   Mixed Venous O2% Sat: 83 - 83
   Total In:
                                                                  7,867 mL
                                                                  2,220 mL
   PO:
   TF:
                                                                     61 mL
                                                                    155 mL
   IVF:
                                                                  7,806 mL
                                                                  2,064 mL
   Blood products:
   Total out:
                                                                  6,308 mL
                                                                  1,822 mL
   Urine:
                                                                     20 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,559 mL
                                                                    398 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.45/36/81.[**Numeric Identifier 8**]/23/1
   Ve: 9.4 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Edematous gentleman with multiple tubes, lines in
   place
   Cardiovascular: S1 & S2 irregular and fast without murmur
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, diffuse edema
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Decreased
   Labs / Radiology
   25 K/uL
   9.6 g/dL
   130 mg/dL
   1.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   29 mg/dL
   97 mEq/L
   132 mEq/L
   26.6 %
   21.8 K/uL
        [image002.jpg]
                             [**2196-6-8**]  09:40 PM
                             [**2196-6-9**]  03:37 AM
                             [**2196-6-9**]  03:53 AM
                             [**2196-6-9**]  09:50 AM
                             [**2196-6-9**]  10:14 AM
                             [**2196-6-9**]  04:21 PM
                             [**2196-6-9**]  04:47 PM
                             [**2196-6-9**]  10:18 PM
                             [**2196-6-10**]  02:11 AM
                             [**2196-6-10**]  02:37 AM
   WBC
   18.8
   18.3
   17.8
   21.2
   21.8
   Hct
   29.6
   28.0
   27.4
   28.7
   26.6
   Plt
   15
   17
   20
   24
   25
   Cr
   1.9
   1.8
   2.0
   1.4
   1.6
   TCO2
   24
   23
   26
   25
   26
   Glucose
   140
   148
   130
   136
   130
   Other labs: PT / PTT / INR:15.1/36.0/1.3, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:65/50, Alk Phos / T Bili:179/12.1,
   Amylase / Lipase:247/53, Differential-Neuts:81.0 %, Band:0.0 %,
   Lymph:9.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:330 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR: ET tube 3cm from Carina. L Subclavian in place. OG tube
   in place. Worsening bilateral fluffy infiltrates. ARDS vs. Pulmonary
   edema
   Microbiology: BCx/SCx pending
   Assessment and Plan
   88yM with acute onset of respiratory distress and septic shock shortly
   after receiving BCG treatment for bladder cancer.
   #. Septic Shock / Urosepsis / BCG reaction ?disseminated M. bovis: The
   patient remains normotensive on Norepinephrine and Vasopressin albeit
   in lower doses than the day prior.  Our goal is to maximize CVVH fluid
   removal rather than wean pressors.  The patient
s WBC is again elevated
   with low grade temperatures concerning for fever given the hypothermic
   effect of CVVH.
   - Continue Norepi, stop Vasopressin as necessary to tolerate CVVH
   - Rifampin + Levofloxacin IV with ongoing corticosteroids to treat
   disseminated ? M. Bovis
   - Zosyn/ Vanc broad spectrum coverage until cultures return tomorrow
   (also 7 day course completed)
   - Continue CVVH, see Lines below
   #. Respiratory Failure: ARDS secondary to sepsis.  Barriers to
   extubation: ARDS, Pulmonary Edema from significant volume overload
   - Continue ventilator support, PRVC mode.
   #. Afib:  The patient
s amiodarone was stopped overnight due to
   bradycardia.  He is in rate controlled afib at this time.  Will start
   beta blocker once pressors off.
   # Leukocytosis:  The patient has an elevated WBC count.  High concern
   for L OSH line infection, CVVH line infection, uncontroled
   hypersensitivity.
   - Resite lines in IR today pending family consent.
   #. Renal Failure:  Currently anuric, creatinine stable at 1.6. CVVH
   ongoing with goal -1.2 L today.   The patient will require a new line
   to be placed in IR as his current CVVH line is not 100% functional and
   repeated stopping of the machine results in volume increase.
   # DIC:  Currently resolved after an episode of hypertension/bradycardia
   during cryoprecipitate infusion.
   - Q12 Hct, Fibrinogen, Coags
   - Replete with cryoprecipitate to fibrinogen >100
   - Transfuse for Hct >25
   - Transfuse platelets > 50 for a procedure
   #. Abnormal LFTs:  Elevated but resolving. Ddx includes sepsis, INH.
   Case reports of granulomatous hepatitis with m bovis but no e/o of this
   best we can tell.
   - Trend
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2196-6-9**] 07:58 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2196-6-4**] 07:48 PM: To be re-sited today with tip
   cultured
   22 Gauge - [**2196-6-5**] 10:01 AM
   Dialysis Catheter - [**2196-6-6**] 12:00 PM: To be re-sited today
   Arterial Line - [**2196-6-7**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2196-06-11 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2196-6-10**] 08:00 PM
 MULTI LUMEN - START [**2196-6-10**] 08:00 PM
   new line placed in ir . all lines and solutsions new to infuse into new
   line
 MULTI LUMEN - STOP [**2196-6-10**] 10:03 PM
   - dialysis line changed
   - central access changed
   - pressors off and pt hypertensive--> thus able to achieve greater
   volume removal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-6-10**] 08:00 AM
   Levofloxacin - [**2196-6-10**] 09:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-6-11**] 05:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-6-10**] 09:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-11**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 33.9
C (93
   HR: 64 (59 - 84) bpm
   BP: 87/68(72) {74/52(56) - 130/97(105)} mmHg
   RR: 14 (11 - 14) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 4 (4 - 346)mmHg
   Total In:
                                                                  5,702 mL
                                                                  2,466 mL
   PO:
   TF:
                                                                    276 mL
   IVF:
                                                                  5,178 mL
                                                                  2,466 mL
   Blood products:
                                                                    247 mL
   Total out:
                                                                  4,580 mL
                                                                  3,080 mL
   Urine:
                                                                     33 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,122 mL
                                                                   -614 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.46/35/86/23/1 on these settings
   Ve: 7 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: Edematous gentleman with multiple tubes, lines in
   place
   Cardiovascular: S1 & S2 irregular and fast without murmur
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, diffuse edema
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Decreased
   Labs / Radiology
   60 K/uL
   9.5 g/dL
   151 mg/dL
   1.6 mg/dL
   23 mEq/L
   3.4 mEq/L
   31 mg/dL
   98 mEq/L
   134 mEq/L
   27.5 %
   21.8 K/uL
        [image002.jpg]
                             [**2196-6-10**]  02:37 AM
                             [**2196-6-10**]  07:43 AM
                             [**2196-6-10**]  10:19 AM
                             [**2196-6-10**]  02:32 PM
                             [**2196-6-10**]  02:54 PM
                             [**2196-6-10**]  05:17 PM
                             [**2196-6-10**]  09:58 PM
                             [**2196-6-10**]  10:16 PM
                             [**2196-6-11**]  05:11 AM
                             [**2196-6-11**]  05:30 AM
   Hct
   27.5
   Plt
   71
   60
   Cr
   2.0
   1.6
   TCO2
   26
   26
   25
   29
   26
   Glucose
   155
   128
   151
   Other labs: PT / PTT / INR:14.0/29.2/1.2, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:65/61, Alk Phos / T Bili:181/12.7,
   Amylase / Lipase:247/53, Differential-Neuts:81.0 %, Band:0.0 %,
   Lymph:9.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:113 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:409 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   All blood and urine cx pending
   [**6-10**] CXR:
   Similar appearance of chest radiograph with bilateral pleural
   effusions and pulmonary edema.
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 .H/O ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY,
   [**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SHOCK, SEPTIC
   88yM with acute onset of respiratory distress and septic shock shortly
   after receiving BCG treatment for bladder cancer.  Currently with ARDS
   but improving.
   #. Septic Shock / Urosepsis / BCG reaction ?disseminated M. bovis:
   Slow improvement but remains tenuous. Most likely this is a systemic
   inflammatory reaction.  All culutures have been negative, although
   atypical mycobacteria would be expected to grow slowly. He is doing
   better and is now off pressors except for low-dose levophed.  He is
   total body overloaded despite being intra-vascularly depleted with low
   CVP.  Our goal is to maximize CVVH fluid removal even if that means
   keeping on low-dose levophed.  WBC continues to climb, which may be
   secondary to steroids but also concerning for untreated infection
   - Continue levophed as necessary to tolerate CVVH
   - Rifampin + Levofloxacin IV with ongoing corticosteroids to treat
   disseminated ? M. Bovis
   - continue high-dose steroids to treat inflammatory component; will
   need 2-3 weeks; continue to discuss with ID
   - stop Zosyn/ Vanc today (completed 7-day course for undefined possible
   bacterial infection)
   - Continue CVVH
   #. Respiratory Failure: ARDS secondary to sepsis.  Barriers to
   extubation include ARDS, and Pulmonary Edema from significant volume
   overload.  Last ABG with adequate oxygenation and ventilation.
   - Continue ventilator support with ARDSnet low TV and current settings
   for now.
   #. Afib:  Initially required amiodarone gtt.  He is in rate controlled
   afib at this time.  Will start beta blocker once pressors off.
   # Leukocytosis:  Rising WBC count.   Afebrile for the past 24 hours,
   but can not trust fevers given CVVH and steroids.  High concern for OSH
   line infection or CVVH line infection, vs uncontroled
   hypersensitivity.  Both lines were re-sited  yesterday although femoral
   HD line still in place.  He is also high-risk for VAP although no
   change in CXR or secretions.
   - continue to monitor
   - pull femoral line
   - c diff x 3
   #. Renal Failure:  Currently anuric, CVVH ongoing .  New CVVH line
   placed yesterday.  Volume overloaded despite intravascularly dry with
   low CVP.
   - continue CVVH
   - goal net even to slightly negative today
   # DIC:  Continues to be thrombocytopenic, likely contribution from
   low-level DIC.  Received 1 unit platelets yesterday with appropriate
   bump.  Fibrinogen has been stable >100 after an episode of
   hypertension/bradycardia during cryoprecipitate infusion.
   - Q12 Hct, Fibrinogen, Coags
   - Replete with cryoprecipitate to fibrinogen >100
   - Transfuse for Hct >25
   - Transfuse platelets > 50 for a procedure
   #. Abnormal LFTs:  Tbili continues to rise but not dramatically over
   the past few days.  LDH and alk phos basically stable.   Transaminitis
   improving.  Ddx includes sepsis, INH. Case reports of granulomatous
   hepatitis with m bovis but no e/o of this best we can tell.  Discused
   with ERCP on admit and determined no need for ERCP at this time.  He
   has had repeated RUQ US.
   - trend bilirubin
   - consider re-US if clical exam changes or continues to rise
   ICU Care
   Nutrition: continue TF
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-6-7**] 10:00 PM
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   Multi Lumen - [**2196-6-10**] 08:00 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: ICU for now

2196-06-12 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2196-6-11**] 04:15 PM
   - pulled femoral HD line
   - Rec'd 1 unit platelets prior to line pull, received unit of cryo
   without reaction
   - holding TF for high residuals
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-6-10**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-6-11**] 05:00 AM
   Levofloxacin - [**2196-6-11**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-6-11**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-12**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 88 (65 - 97) bpm
   BP: 149/114(121) {88/56(68) - 149/114(121)} mmHg
   RR: 17 (11 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 4 (4 - 8)mmHg
   Total In:
                                                                  5,256 mL
                                                                  1,685 mL
   PO:
   TF:
                                                                    594 mL
                                                                     90 mL
   IVF:
                                                                  4,662 mL
                                                                  1,525 mL
   Blood products:
   Total out:
                                                                  4,632 mL
                                                                  2,025 mL
   Urine:
                                                                      9 mL
                                                                     13 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                    624 mL
                                                                   -339 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.50/33/102/24/2
   Ve: 10.7 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: Edematous gentleman with multiple tubes, lines in
   place
   Cardiovascular: S1 & S2 irregular and fast without murmur
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, diffuse edema
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Decreased
   Labs / Radiology
   64 K/uL
   7.8 g/dL
   149 mg/dL
   1.9 mg/dL
   24 mEq/L
   3.9 mEq/L
   34 mg/dL
   97 mEq/L
   131 mEq/L
   22.3 %
   19.8 K/uL
         [image002.jpg]
                             [**2196-6-11**]  05:11 AM
                             [**2196-6-11**]  05:30 AM
                             [**2196-6-11**]  10:49 AM
                             [**2196-6-11**]  11:02 AM
                             [**2196-6-11**]  02:55 PM
                             [**2196-6-11**]  05:19 PM
                             [**2196-6-11**]  09:13 PM
                             [**2196-6-11**]  09:42 PM
                             [**2196-6-12**]  02:21 AM
                             [**2196-6-12**]  03:23 AM
   WBC
   28.1
   30.4
   29.3
   19.8
   Hct
   27.5
   24.5
   24.7
   22.3
   Plt
   60
   60
   67
   71
   64
   Cr
   1.6
   1.7
   1.9
   TCO2
   26
   17
   28
   28
   27
   Glucose
   151
   128
   124
   149
   Other labs: Differential-Neuts:83.0 %, Band:4.0 %, Lymph:1.0 %,
   Mono:7.0 %, Eos:1.0 %, Lactic Acid:1.5 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: ALT: 52 AP: 146 Tbili: 10.1
   AST: 57 LDH: 362
   PT: 14.7  PTT: 30.4  INR: 1.3
   Fibrinogen: 93
   Microbiology: BCx [**Date range (1) 6158**] NGTD
   Assessment and Plan
   88yM with acute onset of respiratory distress and septic shock shortly
   after receiving BCG treatment for bladder cancer.  Currently with ARDS
   but improving.
   #. Septic Shock / Urosepsis / BCG reaction ?disseminated M. bovis:
   Slow improvement but remains tenuous. Systemic inflammatory reaction
   from BCG vs. smoldering mycobacterial infection.  No longer on pressors
   since midnight.  WBC count resolving after femoral line removal.
   - Rifampin + Levofloxacin IV with ongoing corticosteroids to treat
   disseminated ? M. Bovis
   - continue high-dose steroids to treat inflammatory component; will
   need 2-3 weeks; continue to discuss with ID
   - F/U C. diff with any stools
   #. Respiratory Failure: ARDS secondary to sepsis.  Barriers to
   extubation include ARDS, and Pulmonary Edema from significant volume
   overload.  Last ABG with adequate oxygenation and hyperventilation.
   - Trial of pressure support this AM, otherwise consider AC to decrease
   rate and correct alkalosis.
   - Continue CVVH with goal 2L fluid removal daily
   #. Renal Failure:  Currently anuric, CVVH ongoing .  New CVVH line
   placed.  Volume overloaded despite intravascularly dry with low CVP.
   - Continue CVVH with goal 2L fluid removal daily
   #. Afib:  Initially required amiodarone gtt.  He is in rate controlled
   afib at this time.  Will start beta blocker once pressors off.
   # DIC:  Continues to be thrombocytopenic and fibrinogen deficient.
   Transfused platelets & cryo overnight.  DIC likely from ongoing
   inflammatory response, ? infection, possible contribution from CVVH.
   - Q6 Hct, Fibrinogen, Coags
   - Replete with cryoprecipitate to fibrinogen >100
   - Transfuse for Hct >25
   - Transfuse platelets > 50 for a procedure
   #. Abnormal LFTs:  Tbili continues to rise but not dramatically over
   the past few days.  LDH and alk phos basically stable.   Transaminitis
   improving.  Ddx includes sepsis, INH. Case reports of granulomatous
   hepatitis with m bovis but no e/o of this best we can tell.  Discused
   with ERCP on admit and determined no need for ERCP at this time.  He
   has had repeated RUQ US.
   - trend bilirubin
   - consider re-US if clical exam changes or continues to rise
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-6-7**] 10:00 PM
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   Multi Lumen - [**2196-6-10**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2196-06-13 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2196-6-12**] 02:12 PM
 BLOOD CULTURED - At [**2196-6-12**] 02:55 PM
   drawn from central line
 BLOOD CULTURED - At [**2196-6-12**] 03:44 PM
   drawn from central line
   - Tube feeds held for high residuals
   - Unable to change a-line over a wire
   - Transient hypotension (while in NSR, afebrile, resp fine) after
   stopping CVVH.  As levo was about to drip in, BP restored.  Labs sent
   stat but no significant change.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-6-10**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-6-11**] 05:00 AM
   Levofloxacin - [**2196-6-12**] 09:00 AM
   Rifampin - [**2196-6-12**] 02:00 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-6-12**] 11:36 PM
   Midazolam (Versed) - [**2196-6-13**] 12:30 AM
   Fentanyl - [**2196-6-13**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-13**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 96 (74 - 97) bpm
   BP: 150/85(109) {74/48(57) - 155/86(112)} mmHg
   RR: 9 (9 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 9 (6 - 11)mmHg
   Total In:
                                                                  7,860 mL
                                                                  1,283 mL
   PO:
   TF:
                                                                    231 mL
                                                                     86 mL
   IVF:
                                                                  7,131 mL
                                                                  1,197 mL
   Blood products:
                                                                    428 mL
   Total out:
                                                                  9,531 mL
                                                                  1,352 mL
   Urine:
                                                                     23 mL
                                                                      5 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,671 mL
                                                                    -69 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 932) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 4
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.53/29/82.[**Numeric Identifier **]/24/2
   Ve: 6.7 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Edematous gentleman with multiple tubes, lines in
   place
   Cardiovascular: S1 & S2 irregular without murmur
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, diffuse edema
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Decreased
   Labs / Radiology
   55 K/uL
   8.8 g/dL
   90 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.7 mEq/L
   25 mg/dL
   98 mEq/L
   135 mEq/L
   25.2 %
   14.2 K/uL
        [image002.jpg]
                             [**2196-6-11**]  09:42 PM
                             [**2196-6-12**]  02:21 AM
                             [**2196-6-12**]  03:23 AM
                             [**2196-6-12**]  09:34 AM
                             [**2196-6-12**]  09:45 AM
                             [**2196-6-12**]  02:09 PM
                             [**2196-6-12**]  02:28 PM
                             [**2196-6-12**]  08:30 PM
                             [**2196-6-13**]  01:17 AM
                             [**2196-6-13**]  04:31 AM
   WBC
   19.8
   19.0
   14.2
   Hct
   22.3
   26.5
   25.2
   Plt
   64
   62
   55
   Cr
   1.9
   1.4
   1.0
   1.4
   TCO2
   28
   27
   25
   Glucose
   149
   130
   130
   106
   100
   90
   Other labs: Differential-Neuts:86.7 %, Band:4.0 %, Lymph:7.1 %,
   Mono:5.9 %, Eos:0.1 %, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: Fibrinogen: 136
   PT: 14.8  PTT: 30.4  INR: 1.3
   ALT: 50 AP: 146 Tbili: 9.6 Alb: 2.1
   AST: 54 LDH: 357
   Imaging: CXR: Unchanged from prior, ET tube in place, HD line & IJ in
   place. Bilateral diffuse opacity
   Microbiology: BCx [**Date range (1) 6179**]: Pending
   Assessment and Plan
   88yM with acute onset of respiratory distress and septic shock shortly
   after receiving BCG treatment for bladder cancer.  Currently with ARDS
   but improving daily.
   #. Septic Shock / Urosepsis / BCG reaction ?disseminated M. bovis:
   Slow improvement but remains tenuous. Systemic inflammatory reaction
   from BCG vs. smoldering mycobacterial infection.  No longer on pressors
   since midnight.  WBC count resolving after femoral line removal.
   - Rifampin + Levofloxacin IV with ongoing corticosteroids to treat
   disseminated ? M. Bovis
   - continue high-dose steroids to treat inflammatory component; will
   need 2-3 weeks; continue to discuss with ID
   - F/U C. diff with any stools
   #. Respiratory Failure: ARDS secondary to sepsis.  Barriers to
   extubation include ARDS and Pulmonary Edema from significant volume
   overload.  Last ABG with adequate oxygenation and hyperventilation.
   - Trial of pressure support this AM, otherwise consider AC or PRVC to
   decrease rate and correct alkalosis.
   - Continue CVVH with goal 2L fluid removal daily
   #. Renal Failure:  Currently anuric, CVVH ongoing.  New CVVH line
   placed.  Volume overloaded despite intravascularly dry with low CVP.
   - Continue CVVH with goal 2L fluid removal daily
   - Discuss conversion to HD with renal
   #. Afib:  Initially required amiodarone gtt.  He is in rate controlled
   afib at this time.
   # DIC:  Stable Platelet and Fibrinogen count. DIC likely from ongoing
   inflammatory response, ? infection, possible contribution from CVVH.
   - Q12 Hct, Fibrinogen, Coags
   - Replete with cryoprecipitate to fibrinogen >100
   - Transfuse for Hct >25
   - Transfuse platelets > 50 for a procedure
   #. Abnormal LFTs:  Tbili has peaked and is now trending downward.
   Transaminitis improving.
   - consider re-US if clical exam changes or continues to rise
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-6-7**] 10:00 PM
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   Multi Lumen - [**2196-6-10**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2196-06-15 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No acute events overnight
   Not Dialyzed yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-6-14**] 08:13 AM
   Rifampin - [**2196-6-14**] 12:07 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-6-14**] 12:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-15**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 94 (91 - 105) bpm
   BP: 132/72(96) {108/62(79) - 157/95(120)} mmHg
   RR: 18 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 90 kg
   Height: 69 Inch
    CVP: 8 (5 - 19)mmHg
   Total In:
                                                                  1,623 mL
                                                                    154 mL
   PO:
   TF:
                                                                    825 mL
   IVF:
                                                                    738 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                     67 mL
                                                                     40 mL
   Urine:
                                                                     67 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,556 mL
                                                                    114 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 25 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: Edematous gentleman with multiple tubes, lines in
   place
   Cardiovascular: S1 & S2 regular without murmur
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, diffuse edema
   Skin:  Warm
   Neurologic: Opens eyes to physical stimulation
   Labs / Radiology
   68 K/uL
   8.1 g/dL
   119 mg/dL
   3.2 mg/dL
   27 mEq/L
   4.4 mEq/L
   56 mg/dL
   99 mEq/L
   137 mEq/L
   23.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2196-6-13**]  01:17 AM
                             [**2196-6-13**]  04:31 AM
                             [**2196-6-13**]  03:28 PM
                             [**2196-6-13**]  04:07 PM
                             [**2196-6-13**]  06:10 PM
                             [**2196-6-13**]  08:52 PM
                             [**2196-6-13**]  10:47 PM
                             [**2196-6-14**]  04:00 AM
                             [**2196-6-14**]  05:06 AM
                             [**2196-6-15**]  04:15 AM
   WBC
   14.2
   15.5
   12.1
   9.9
   Hct
   25.2
   27.6
   26.2
   23.7
   Plt
   55
   63
   70
   68
   Cr
   1.0
   1.4
   1.7
   2.0
   3.2
   TCO2
   27
   29
   30
   27
   Glucose
   100
   90
   107
   110
   119
   Other labs: Differential-Neuts:86.7 %, Band:4.0 %, Lymph:7.1 %,
   Mono:5.9 %, Eos:0.1 %, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: PT: 15.6  PTT: 26.5  INR: 1.4
   Fibrinogen: 144
   ALT: 45 AP: 137 Tbili: 9.2 AST: 53 LDH: 306
   Imaging: None
   Microbiology: BCx [**Date range (1) 6248**] Pending (NGTD)
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 IMPAIRED SKIN INTEGRITY
   88yM with acute onset of respiratory distress and septic shock shortly
   after receiving BCG treatment for bladder cancer.  Continues to be
   ventilator dependent but shows signs of improvement with fluid removal.
   #. Respiratory Failure: ARDS secondary to sepsis.  Patient drawing
   large tidal volumes worsening his alkalosis when he breathes on PSV.
   Barriers to extubation include ARDS and Pulmonary Edema from
   significant volume overload, long term sedation.  The patient is ~27L
   positive since admission (minus large insensible losses) and will
   require significant diuresis before he can be safely extubated.  Did
   not received HD yesterday.
   - Continue PRVC and focus on high volume fluid removal via HD
   #. BCG Reaction: Still unclear if his primary process is sepsis,
   urosepsis a systemic hypersensitivity from BCG or a smoldering M. Bovis
   infection.  His hypotension, WBC and fevers have resolved.  C. diff
   negative x3.  His overall picture is improving
   - Rifampin + Levofloxacin IV ongoing
   - Allergy Recommendations: Begin slow Steroid taper: Hydrocort decrease
   10mg per dose q3ds.  Will confirm.
   #. Renal Failure:  Currently anuric, transitioned to HD. Volume
   overloaded despite intravascular volume depletion.  4L every other day
   will not be successful in removing fluid.  The patient will require
   ultrafiltration in between HD session.
   - Continue HD with minimum 2L fluid removal daily
   # DIC:  Stable Platelet and Fibrinogen count. DIC likely from ongoing
   inflammatory response, ? infection, possible contribution from CVVH.
   - Daily Hct, Fibrinogen, Coags
   - Replete with cryoprecipitate to fibrinogen >100
   - Transfuse for Hct >25
   - Transfuse platelets > 50 for a procedure
   #. Shock Liver:  LFTs normalizing with bilirubin resolving most slowly.
   Patient s/p INH therapy with 7 days of Vitamin b6
   - trend LFTs
   - consider re-US if clical exam changes or continues to rise
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-6-7**] 10:00 PM
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   Multi Lumen - [**2196-6-10**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2196-06-16 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - got ultrafiltration with removal of 4.5 L with stable BP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-6-14**] 08:13 AM
   Rifampin - [**2196-6-15**] 12:00 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-6-16**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-16**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 95 (89 - 114) bpm
   BP: 146/80(107) {114/63(83) - 190/122(147)} mmHg
   RR: 14 (6 - 25) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 101 kg (admission): 90 kg
   Height: 69 Inch
    CVP: 10 (2 - 15)mmHg
   Total In:
                                                                  1,088 mL
                                                                    173 mL
   PO:
   TF:
   IVF:
                                                                  1,088 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                    115 mL
                                                                    139 mL
   Urine:
                                                                    115 mL
                                                                     49 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                    973 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.50/31/164/22/2
   Ve: 9 L/min
   PaO2 / FiO2: 410
   Physical Examination
   General Appearance: Edematous gentleman with multiple tubes, lines in
   place
   Cardiovascular: S1 & S2 regular without murmur
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, diffuse edema
   Skin:  Warm
   Neurologic: does not awaken to stimulation
   Labs / Radiology
   95 K/uL
   8.0 g/dL
   107 mg/dL
   3.1 mg/dL
   22 mEq/L
   5.4 mEq/L
   52 mg/dL
   106 mEq/L
   138 mEq/L
   23.5 %
   6.9 K/uL
        [image002.jpg]
                             [**2196-6-13**]  04:07 PM
                             [**2196-6-13**]  06:10 PM
                             [**2196-6-13**]  08:52 PM
                             [**2196-6-13**]  10:47 PM
                             [**2196-6-14**]  04:00 AM
                             [**2196-6-14**]  05:06 AM
                             [**2196-6-15**]  04:15 AM
                             [**2196-6-15**]  07:40 PM
                             [**2196-6-16**]  03:41 AM
                             [**2196-6-16**]  03:57 AM
   WBC
   12.1
   9.9
   6.9
   Hct
   26.2
   23.7
   23.5
   Plt
   70
   68
   95
   Cr
   1.7
   2.0
   3.2
   3.1
   TCO2
   27
   29
   30
   27
   23
   25
   Glucose
   107
   110
   119
   107
   Other labs: PT / PTT / INR:15.6/27.2/1.4, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:49/78, Alk Phos / T Bili:146/8.0,
   Amylase / Lipase:247/53, Differential-Neuts:84.2 %, Band:4.0 %,
   Lymph:7.8 %, Mono:7.8 %, Eos:0.2 %, Fibrinogen:147 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.5 g/dL, LDH:511 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Fibrinogen: 147
   INR  1.4
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 IMPAIRED SKIN INTEGRITY
   88yM with acute onset of respiratory distress and septic shock shortly
   after receiving BCG treatment for bladder cancer.  Continues to be
   ventilator dependent but shows signs of improvement with fluid removal.
   #. Respiratory Failure:   ARDS secondary to inflammatory response.  Now
   on AC.  ET tube 2.5 cm from carina today. Barriers to extubation
   include ARDS and pulmonary edema from significant volume overload, long
   term sedation.  Currently getting HD every other day and UF on the days
   in between with goal 4 L fluid removal daily (although by some error
   this fluid debt was not recorded in Metavision yesterday).
   - continue to remove volume via HD/UF
   - try to wean sedation and trial of PSV
   - pull back ET tube
   .
   #. BCG Reaction: It remains unclear whether the inciting event was
   sepsis or a hypersensitivity from BCG.  His hypotension, WBC and fevers
   have resolved.  He is currently on empiric treatment with both
   antibiotics for possible infection and  a steroid taper for possible
   hypersensitivity.  We are concerned about the side effects of such high
   dose, relatively long steroid  course including steroid myopathy.
   Allergy is following.
   - Rifampin + Levofloxacin IV ongoing for possible atypical
   mycobacterial infection.
   - increase rapidity of steroid taper:  60 mg IV q8h, then 40 mg Ivq8h x
   2 days, then 20 mg for a prolonged time
   .
   #. Renal Failure:  Currently anuric, transitioned to HD. Volume
   overloaded despite intravascular volume depletion.  4L every other day
   will not be successful in removing fluid.  The patient will require
   ultrafiltration in between HD session.
   - Continue HD with minimum 4L fluid removal today alternating with
   ultrafiltration
   .
   #. Falling WBC:  WBC have fallen from a peak of 29.  It is currently
   normal, but ongoing decline is worrisome for a drug reaction.
   - continue to monitor
   .
   # Hypertension:  After previously being hypotensive, he is currently
   hypertensive.  Per nursing, this is true even when he is not agitated.
   - start hydralazine through NGT with holding parameters
   .
   # DIC:  seems to have resolved.  No factor repletion required x days.
   - no need to monitor further
   .
   #. Shock Liver:  LFTs improving daily, although LDH bumped today (but
   specimen hemolyzed).
   - trend LFTs daily
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-6-7**] 10:00 PM
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   Multi Lumen - [**2196-6-10**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: wife, number in room
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2196-06-17 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - lightened sedation; patient became hypertensive and agitated
   - trial of PSV but patient inconsistently breathing
   - ID says no PCP [**Name9 (PRE) 1694**] but attending may be re-considering
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-6-16**] 08:00 AM
   Rifampin - [**2196-6-16**] 12:00 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2196-6-17**] 02:00 AM
   Fentanyl - [**2196-6-17**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-17**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 97 (82 - 102) bpm
   BP: 153/95(118) {104/64(79) - 188/133(154)} mmHg
   RR: 20 (2 - 25) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 101 kg (admission): 90 kg
   Height: 69 Inch
    CVP: 6 (5 - 24)mmHg
   Total In:
                                                                  1,714 mL
                                                                    586 mL
   PO:
   TF:
                                                                    860 mL
                                                                    380 mL
   IVF:
                                                                    714 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                    198 mL
                                                                     45 mL
   Urine:
                                                                    108 mL
                                                                     45 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                  1,516 mL
                                                                    541 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.48/32/123
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Edematous gentleman with multiple tubes, lines in
   place
   Cardiovascular: S1 & S2 regular without murmur
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, diffuse edema
   Skin:  Warm
   Neurologic: does not awaken to stimulation
   Labs / Radiology
   119 K/uL
   8.9 g/dL
   110 mg/dL
   4.3 mg/dL
   21 mEq/L
   5.5 mEq/L
   76 mg/dL
   107 mEq/L
   140 mEq/L
   26.6 %
   8.1 K/uL
        [image002.jpg]
                             [**2196-6-13**]  08:52 PM
                             [**2196-6-13**]  10:47 PM
                             [**2196-6-14**]  04:00 AM
                             [**2196-6-14**]  05:06 AM
                             [**2196-6-15**]  04:15 AM
                             [**2196-6-15**]  07:40 PM
                             [**2196-6-16**]  03:41 AM
                             [**2196-6-16**]  03:57 AM
                             [**2196-6-16**]  03:47 PM
                             [**2196-6-17**]  05:07 AM
   WBC
   12.1
   9.9
   6.9
   7.5
   8.1
   Hct
   26.2
   23.7
   23.5
   23.4
   26.6
   Plt
   70
   68
   95
   101
   119
   Cr
   1.7
   2.0
   3.2
   3.1
   4.3
   TCO2
   30
   27
   23
   25
   Glucose
   107
   110
   119
   107
   110
   Other labs: PT / PTT / INR:14.1/24.0/1.2, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:47/51, Alk Phos / T Bili:162/7.1,
   Amylase / Lipase:247/53, Differential-Neuts:83.3 %, Band:4.0 %,
   Lymph:9.4 %, Mono:7.1 %, Eos:0.2 %, Fibrinogen:147 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.5 g/dL, LDH:351 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.5 mg/dL
   All cx NGTD including mycolytic
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 IMPAIRED SKIN INTEGRITY
   88yM with acute onset of respiratory distress and septic shock shortly
   after receiving BCG treatment for bladder cancer.  Continues to be
   ventilator dependent but shows signs of improvement with fluid removal.
   #. Respiratory Failure:   ARDS secondary to inflammatory response.  Now
   on AC.  ET tube 2.5 cm from carina today. Barriers to extubation
   include ARDS and pulmonary edema from significant volume overload, long
   term sedation.  Currently getting HD every other day and UF on the days
   in between with goal 4 L fluid removal daily (although by some error
   this fluid debt was not recorded in Metavision yesterday).
   - continue to remove volume via HD/UF
   - try to wean sedation and trial of PSV
   - pull back ET tube
   .
   #. BCG Reaction: It remains unclear whether the inciting event was
   sepsis or a hypersensitivity from BCG.  His hypotension, WBC and fevers
   have resolved.  He is currently on empiric treatment with both
   antibiotics for possible infection and  a steroid taper for possible
   hypersensitivity.  We are concerned about the side effects of such high
   dose, relatively long steroid  course including steroid myopathy.
   Allergy is following.
   - Rifampin + Levofloxacin IV ongoing for possible atypical
   mycobacterial infection.
   - increase rapidity of steroid taper:  60 mg IV q8h, then 40 mg Ivq8h x
   2 days, then 20 mg for a prolonged time
   - consider PCP [**Name Initial (PRE) 1694**]
   .
   #. Renal Failure:  Currently anuric, transitioned to HD. Volume
   overloaded despite intravascular volume depletion.  4L every other day
   will not be successful in removing fluid.  The patient will require
   ultrafiltration in between HD session.
   - Continue HD with minimum 4L fluid removal today alternating with
   ultrafiltration
   .
   #. Falling WBC:  WBC have fallen from a peak of 29.  It is currently
   normal, but ongoing decline is worrisome for a drug reaction.
   - continue to monitor
   .
   # Hypertension:  After previously being hypotensive, he is currently
   hypertensive.  Per nursing, this is true even when he is not agitated.
   - start hydralazine through NGT with holding parameters
   .
   # DIC:  seems to have resolved.  No factor repletion required x days.
   - no need to monitor further
   .
   #. Shock Liver:  LFTs improving daily, although LDH bumped today (but
   specimen hemolyzed).
   - trend LFTs daily
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-6-7**] 10:00 PM
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   Multi Lumen - [**2196-6-10**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: wife, number in room
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2196-06-18 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tunnelled line pushed back to Monday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-6-16**] 08:00 AM
   Rifampin - [**2196-6-17**] 12:56 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2196-6-17**] 12:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-18**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 96 (83 - 105) bpm
   BP: 96/60(73) {92/52(66) - 181/139(148)} mmHg
   RR: 11 (10 - 20) insp/min
   SpO2: 98%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 101 kg (admission): 90 kg
   Height: 69 Inch
    CVP: 10 (10 - 18)mmHg
   Total In:
                                                                  1,145 mL
                                                                    408 mL
   PO:
   TF:
                                                                    429 mL
                                                                    196 mL
   IVF:
                                                                    496 mL
                                                                    182 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,797 mL
                                                                     66 mL
   Urine:
                                                                     97 mL
                                                                     66 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,652 mL
                                                                    342 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 261
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Edematous gentleman with multiple tubes, lines in
   place
   Cardiovascular: S1 & S2 regular without murmur
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, diffuse edema
   Skin:  Warm
   Neurologic: does not awaken to stimulation
   Labs / Radiology
   146 K/uL
   8.1 g/dL
   94 mg/dL
   3.6 mg/dL
   26 mEq/L
   4.6 mEq/L
   65 mg/dL
   106 mEq/L
   142 mEq/L
   24.0 %
   6.6 K/uL
        [image002.jpg]
                             [**2196-6-15**]  04:15 AM
                             [**2196-6-15**]  07:40 PM
                             [**2196-6-16**]  03:41 AM
                             [**2196-6-16**]  03:57 AM
                             [**2196-6-16**]  03:47 PM
                             [**2196-6-17**]  05:07 AM
                             [**2196-6-17**]  07:21 AM
                             [**2196-6-17**]  09:28 AM
                             [**2196-6-17**]  12:34 PM
                             [**2196-6-18**]  05:04 AM
   WBC
   9.9
   6.9
   7.5
   8.1
   6.6
   Hct
   23.7
   23.5
   23.4
   26.6
   24.0
   Plt
   68
   95
   101
   119
   146
   Cr
   3.2
   3.1
   4.3
   4.3
   2.2
   3.6
   TCO2
   23
   25
   25
   Glucose
   119
   107
   110
   94
   Other labs: Differential-Neuts:83.3 %, Band:4.0 %, Lymph:9.4 %,
   Mono:7.1 %, Eos:0.2 %, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: ALT: 40 AP: 145 Tbili: 5.5 Alb: 2.8
   AST: 46 LDH: 287
   PT: 14.0  PTT: 28.3  INR: 1.2
   Imaging: CXR: pending
   Microbiology: BCx: [**Date range (1) 6321**] Pending
   Assessment and Plan
   88yM with acute onset of respiratory distress and septic shock shortly
   after receiving BCG treatment for bladder cancer.  Continues to be
   ventilator dependent because of volume overload which we are
   successfully improving at ~2L daily.
   #. Respiratory Failure:   Initial insult ARDS secondary to the post-BCG
   inflammatory response.  Fluid overload is his primary barrier to
   extubation.  Currently getting HD every other day and UF on the days in
   between with goal 4 L fluid removal daily.
   - continue AC ventilation
   - continue to remove volume via HD/UF
   - will re-try lightening sedation and moving toward PSV in the upcoming
   days as he approaches +10L
   #. BCG Reaction: Leukocytosis, fevers resolved, no signs or symptoms of
   any infection.  He is currently on empiric treatment with both
   antibiotics for possible infection and  a steroid taper for possible
   hypersensitivity.  Steroids were decreased yesterday, with plans for a
   fast taper to 20 mg.
   - Rifampin + Levofloxacin IV ongoing for possible atypical
   mycobacterial infection.
   - hydrocortisone taper:  60 mg IV q8h, then 40 mg Ivq8h x 2 days, then
   20 mg for a prolonged time
   - Continue Bactrim for PCP [**Name Initial (PRE) 1694**]
   #. Renal Failure:  Currently anuric, transitioned to HD. Volume
   overloaded despite intravascular volume depletion.  4L every other day
   will not be successful in removing fluid.  The patient will require
   ultrafiltration in between HD session.
   - Continue HD with minimum 4L fluid removal today alternating with
   ultrafiltration
   - tunnelled line postponed until Monday
   # Hypertension:  The patient has developed hypertension to the 190s
   that is responsive to hydralazine.  He continues to have brief periods
   of hypotension from fluid shifting that make long term
   anti-hypertensive therapy difficult. He remains hypertensive despite
   starting low-dose hydralazine.
   -  Continue hydralazine to 20 mg q8h with firm holding parameters (hold
   <SBP 110)
   #. Shock Liver:  LFTs improving daily.
   - trend LFTs daily
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2196-6-18**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-6-7**] 10:00 PM
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   Multi Lumen - [**2196-6-10**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: Can start SubQ heparin today
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ------ Protected Section ------
   Addendun:
   Will discontinue hydralazine as the patient
s htn is likely sedation
   related.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3288**], MD
   on:[**2196-6-18**] 14:49 ------

2196-06-19 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2196-6-18**] 07:00 PM
 ARTERIAL LINE - STOP [**2196-6-18**] 10:00 PM
 ARTERIAL LINE - START [**2196-6-19**] 06:40 AM
   [**First Name8 (NamePattern2) **] [**Location (un) 103**] sbp in 170s, noninvasive cuff [**Location (un) 103**] sbp in 130s. abg
   sent.
   --Significant improvement in removal of volume yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-6-16**] 08:00 AM
   Rifampin - [**2196-6-18**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2196-6-18**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-6-18**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-19**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 92 (83 - 110) bpm
   BP: 119/60(72) {119/60(72) - 147/103(108)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 101 kg (admission): 90 kg
   Height: 69 Inch
    CVP: 5 (4 - 9)mmHg
   Total In:
                                                                  1,889 mL
                                                                    186 mL
   PO:
   TF:
                                                                    710 mL
   IVF:
                                                                  1,089 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  3,171 mL
                                                                    496 mL
   Urine:
                                                                    171 mL
                                                                    121 mL
   NG:
                                                                    375 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,282 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 126
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/32/136/26/3
   Ve: 6.7 L/min
   PaO2 / FiO2: 340
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   177 K/uL
   7.7 g/dL
   110 mg/dL
   4.9 mg/dL
   26 mEq/L
   5.0 mEq/L
   80 mg/dL
   107 mEq/L
   145 mEq/L
   22.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2196-6-16**]  03:41 AM
                             [**2196-6-16**]  03:57 AM
                             [**2196-6-16**]  03:47 PM
                             [**2196-6-17**]  05:07 AM
                             [**2196-6-17**]  07:21 AM
                             [**2196-6-17**]  09:28 AM
                             [**2196-6-17**]  12:34 PM
                             [**2196-6-18**]  05:04 AM
                             [**2196-6-19**]  04:11 AM
                             [**2196-6-19**]  06:40 AM
   WBC
   6.9
   7.5
   8.1
   6.6
   5.9
   Hct
   23.5
   23.4
   26.6
   24.0
   22.8
   Plt
   95
   101
   119
   146
   177
   Cr
   3.1
   4.3
   4.3
   2.2
   3.6
   4.9
   TCO2
   25
   25
   26
   Glucose
   107
   110
   94
   110
   Other labs: PT / PTT / INR:14.3/31.7/1.2, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:34/38, Alk Phos / T Bili:117/4.7,
   Amylase / Lipase:247/53, Differential-Neuts:83.3 %, Band:4.0 %,
   Lymph:9.4 %, Mono:7.1 %, Eos:0.2 %, Fibrinogen:147 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:273 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR [**6-18**]: There is continued evidence for bilateral pleural
   effusions, greater on the right and pulmonary vascular congestion.
   Mediastinal structures are unchanged.
   NO CXR TODAY
   Microbiology: [**6-15**] BCx NGTD
   [**6-18**] A-line Cx NGTD
   Initial AFB Cx still Pending
   Assessment and Plan
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 IMPAIRED SKIN INTEGRITY
   88yM with acute onset of respiratory distress and septic shock shortly
   after receiving BCG treatment for bladder cancer.  Continues to be
   ventilator dependent because of volume overload which we are
   successfully improving at ~2L daily.
   #. Respiratory Failure:   Initial insult ARDS secondary to the post-BCG
   inflammatory response.  Fluid overload is his primary barrier to
   extubation.  Currently getting HD every other day and UF on the days in
   between with goal 4 L fluid removal daily.
   - continue AC ventilation
   - continue to remove volume via HD/UF
   - will re-try lightening sedation and moving toward PSV in the upcoming
   days as he approaches +10L
   #. BCG Reaction: Leukocytosis, fevers resolved, no signs or symptoms of
   any infection.  He is currently on empiric treatment with both
   antibiotics for possible infection and  a steroid taper for possible
   hypersensitivity.  Steroids were decreased yesterday, with plans for a
   fast taper to 20 mg.
   - Rifampin + Levofloxacin IV ongoing for possible atypical
   mycobacterial infection.
   - hydrocortisone taper:  60 mg IV q8h, then 40 mg Ivq8h x 2 days, then
   20 mg for a prolonged time
   - Continue Bactrim for PCP [**Name Initial (PRE) 1694**]
   #. Renal Failure:  Currently anuric, transitioned to HD. Volume
   overloaded despite intravascular volume depletion.  4L every other day
   will not be successful in removing fluid.  The patient will require
   ultrafiltration in between HD session.
   - Continue HD with minimum 4L fluid removal today alternating with
   ultrafiltration
   - tunnelled line postponed until Monday
   # Hypertension:  The patient has developed hypertension to the 190s
   that is responsive to hydralazine.  He continues to have brief periods
   of hypotension from fluid shifting that make long term
   anti-hypertensive therapy difficult. He remains hypertensive despite
   starting low-dose hydralazine.
   -  stopped hydral as HTN felt to be sedation related
   #. Shock Liver:  LFTs improving daily.
   - trend LFTs daily
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   Multi Lumen - [**2196-6-10**] 08:00 PM
   Arterial Line - [**2196-6-19**] 06:40 AM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: icu

2196-06-19 19:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2196-6-18**] 07:00 PM
 ARTERIAL LINE - STOP [**2196-6-18**] 10:00 PM
 ARTERIAL LINE - START [**2196-6-19**] 06:40 AM
   [**First Name8 (NamePattern2) **] [**Location (un) 103**] sbp in 170s, noninvasive cuff [**Location (un) 103**] sbp in 130s. abg
   sent.
   --Significant improvement in removal of volume yesterday.
   --unable to get HD or UF today b/c of dialysis nurse staffing issues
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-6-16**] 08:00 AM
   Rifampin - [**2196-6-18**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2196-6-18**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-6-18**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-19**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 92 (83 - 110) bpm
   BP: 119/60(72) {119/60(72) - 147/103(108)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 101 kg (admission): 90 kg
   Height: 69 Inch
    CVP: 5 (4 - 9)mmHg
   Total In:
                                                                  1,889 mL
                                                                    186 mL
   PO:
   TF:
                                                                    710 mL
   IVF:
                                                                  1,089 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  3,171 mL
                                                                    496 mL
   Urine:
                                                                    171 mL
                                                                    121 mL
   NG:
                                                                    375 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,282 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 126
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/32/136/26/3
   Ve: 6.7 L/min
   PaO2 / FiO2: 340
   Physical Examination
   Sedated, opens eyes to sternal rub, not responsive to commands,
   down-going toes bilaterally, imprvenent in facial edeam, upper ext
   edema and skin breakdown not significantly changed. Abd soft,
   non-distended. Ext warm.
   Labs / Radiology
   177 K/uL
   7.7 g/dL
   110 mg/dL
   4.9 mg/dL
   26 mEq/L
   5.0 mEq/L
   80 mg/dL
   107 mEq/L
   145 mEq/L
   22.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2196-6-16**]  03:41 AM
                             [**2196-6-16**]  03:57 AM
                             [**2196-6-16**]  03:47 PM
                             [**2196-6-17**]  05:07 AM
                             [**2196-6-17**]  07:21 AM
                             [**2196-6-17**]  09:28 AM
                             [**2196-6-17**]  12:34 PM
                             [**2196-6-18**]  05:04 AM
                             [**2196-6-19**]  04:11 AM
                             [**2196-6-19**]  06:40 AM
   WBC
   6.9
   7.5
   8.1
   6.6
   5.9
   Hct
   23.5
   23.4
   26.6
   24.0
   22.8
   Plt
   95
   101
   119
   146
   177
   Cr
   3.1
   4.3
   4.3
   2.2
   3.6
   4.9
   TCO2
   25
   25
   26
   Glucose
   107
   110
   94
   110
   Other labs: PT / PTT / INR:14.3/31.7/1.2, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:34/38, Alk Phos / T Bili:117/4.7,
   Amylase / Lipase:247/53, Differential-Neuts:83.3 %, Band:4.0 %,
   Lymph:9.4 %, Mono:7.1 %, Eos:0.2 %, Fibrinogen:147 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:273 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR [**6-18**]: There is continued evidence for bilateral pleural
   effusions, greater on the right and pulmonary vascular congestion.
   Mediastinal structures are unchanged.
   NO CXR TODAY
   Microbiology: [**6-15**] BCx NGTD
   [**6-18**] A-line Cx NGTD
   Initial AFB Cx still Pending
   Assessment and Plan
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 IMPAIRED SKIN INTEGRITY
   88yM with acute onset of respiratory distress and septic shock shortly
   after receiving BCG treatment for bladder cancer.  Continues to be
   ventilator dependent because of volume overload which we are
   successfully improving at ~2L daily.
   #. Respiratory Failure:   Initial insult ARDS secondary to the post-BCG
   inflammatory response.  Fluid overload is his primary barrier to
   extubation.  Currently getting HD every other day and UF on the days in
   between with goal 4 L fluid removal daily
Last two days with better
   (more negative) fluid balance.
   - continue AC ventilation
   - continue to remove volume via HD/UF, not available today
   unfortunately due to HD staffing issues
   - will re-try lightening sedation and moving toward PSV in the upcoming
   days as he approaches +10L
   - some urgency to volume to volume removal and extubation given pt
   advanced age and recent steroid exposure
   #. BCG Reaction: Leukocytosis, fevers resolved, no signs or symptoms of
   any infection.  He is currently on empiric treatment with both
   antibiotics for possible infection and  a steroid taper for possible
   hypersensitivity rxn.  Steroid taper has been accelerated.
   - Rifampin + Levofloxacin IV ongoing for possible atypical
   mycobacterial infection; discuss duration with ID
   - hydrocortisone taper:  60 mg IV q8h, then 40 mg Ivq8h x 2 days, then
   20 mg for a prolonged time
   - Continue Bactrim for PCP [**Name Initial (PRE) 1694**]
   #. Renal Failure:  HD and UF alternating QOD.  He is 5L negative over
   the last two days on current schedule of HD/UF.  UOP still very lo, but
   significantly improved from previously.
   - Continue HD with minimum 4L fluid removal today alternating with
   ultrafiltration
   - tunnelled line CONVERSION postponed until Monday
   # Hypertension:  The patient has developed hypertension to the 190s
   that is responsive to hydralazine.  He continues to have brief periods
   of hypotension from fluid shifting that make long term
   anti-hypertensive therapy difficult. He remains hypertensive despite
   starting low-dose hydralazine.
   -  stopped hydral as HTN felt to be sedation related. Titrate sedation
   in response to BP as well
   #. Shock Liver:  LFTs improving daily.
   - trend LFTs daily
   ICU Care
   Nutrition: TF
s held [**2-22**] residuals; if continues to have high
   residuals, will d/w IR re: post pyloric tube placement
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   Multi Lumen - [**2196-6-10**] 08:00 PM
   Arterial Line - [**2196-6-19**] 06:40 AM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: icu

2196-06-20 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No acute events or changes in mgt overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Rifampin - [**2196-6-19**] 11:55 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2196-6-19**] 12:00 PM
   Midazolam (Versed) - [**2196-6-20**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-6-20**] 05:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-20**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 95 (81 - 104) bpm
   BP: 164/88(120) {88/51(64) - 171/139(244)} mmHg
   RR: 10 (6 - 18) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 660 kg (admission): 90 kg
   Height: 69 Inch
    CVP: 10 (2 - 10)mmHg
   Total In:
                                                                  1,564 mL
                                                                    335 mL
   PO:
   TF:
                                                                    486 mL
                                                                    145 mL
   IVF:
                                                                  1,048 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                    768 mL
                                                                    142 mL
   Urine:
                                                                    393 mL
                                                                    142 mL
   NG:
                                                                    375 mL
   Stool:
   Drains:
   Balance:
                                                                    796 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/33/162/23/2
   Ve: 7.5 L/min
   PaO2 / FiO2: 405
   Physical Examination
   Intubated, sedated, appears comforatbale, not responding to commands,
   anasarca improved although still significantly volume overloaded. Skin
   breakdown on dorsal upper exts improved.
   Labs / Radiology
   215 K/uL
   7.9 g/dL
   123 mg/dL
   5.7 mg/dL
   23 mEq/L
   5.8 mEq/L
   90 mg/dL
   109 mEq/L
   144 mEq/L
   23.3 %
   4.6 K/uL
        [image002.jpg]
                             [**2196-6-17**]  05:07 AM
                             [**2196-6-17**]  07:21 AM
                             [**2196-6-17**]  09:28 AM
                             [**2196-6-17**]  12:34 PM
                             [**2196-6-18**]  05:04 AM
                             [**2196-6-19**]  04:11 AM
                             [**2196-6-19**]  06:40 AM
                             [**2196-6-19**]  03:30 PM
                             [**2196-6-20**]  04:27 AM
                             [**2196-6-20**]  06:11 AM
   WBC
   8.1
   6.6
   5.9
   5.3
   4.6
   Hct
   26.6
   24.0
   22.8
   21.4
   23.3
   Plt
   119
   146
   177
   179
   215
   Cr
   4.3
   4.3
   2.2
   3.6
   4.9
   5.7
   TCO2
   25
   26
   25
   Glucose
   110
   94
   110
   123
   Other labs: PT / PTT / INR:14.3/30.1/1.2, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:37/52, Alk Phos / T Bili:107/3.7,
   Amylase / Lipase:247/53, Differential-Neuts:82.0 %, Band:4.0 %,
   Lymph:12.6 %, Mono:5.0 %, Eos:0.4 %, Fibrinogen:196 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:385 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.1 mg/dL
   Imaging: CXR:
   Microbiology: Bcx : NGTD
   Myco cx: NGTD
   sputum: yeast
   Assessment and Plan
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 IMPAIRED SKIN INTEGRITY
   88yM with acute onset of respiratory distress and septic-like shock
   shortly after receiving BCG treatment for bladder cancer secondary to
   either disseminated m.bovis infection vs cytokine-driven
   hypersensitivity reaction.  Continues to be ventilator dependent
   because of volume overload which we are successfully improving with
   HD/UF.
   #. Respiratory Failure:   Initial insult ARDS secondary to the post-BCG
   inflammatory response.  Fluid overload is still his primary barrier to
   extubation.  Currently getting HD every other day and UF on the days in
   between with goal 2-3 L fluid removal daily
off HD yesterday over
   nursing considerations, back on UF/HD today.
   - continue AC ventilation; get NIF this PM
   - continue to remove volume via HD/UF
   - will re-try lightening sedation and moving toward PSV in the upcoming
   days as he approaches euvolemia
   - some urgency to volume removal and extubation given pt
s advanced age
   and prolonged steroid exposure
   #. BCG Reaction: Leukocytosis, fevers resolved, no signs or symptoms of
   any infection.  He is currently on empiric treatment with both
   antibiotics for possible infection and  a steroid taper for possible
   hypersensitivity rxn.  Steroid taper has been accelerated and he will
   be transitioning to 20mg IV tid of hydrocort tomorrow for one
   week
further slow titration to follow: one reported complication of
   fast tapers in this condition is diffuse mbovis granuloma formation
   (per up-to-date)
   - Rifampin + Levofloxacin IV ongoing for possible atypical
   mycobacterial infection; need to determine duration
   - hydrocortisone taper to  20 mg IV TID X 1 WEEK, and subsequnent slow
   taper for a prolonged time
   - Continue Bactrim for PCP [**Name Initial (PRE) 1694**]
   #. Renal Failure:  HD and UF alternating QOD.  He is 5L negative over
   the last two days on current schedule of HD/UF.  UOP still  low, but
   improving daily.
   - Continue HD with minimum 3L fluid removal today alternating with
   ultrafiltration
   - tunnelled line CONVERSION postponed given increase in UOP and
   potential of renal recovery
   # Hypertension:  Stopped hydral as HTN felt to be sedation related.
   Titrate sedation in response to BP as well. Hydral prn if becomes an
   issue with weaning.
   #. Shock Liver:  LFTs improving daily.
   - trend LFTs daily
   # Goals of Care: per last discussion with family, it seems that they
   would not want to pursue trach/peg, making expeditious volume removal
   and subsequent extubation more pressing issues given his risk for
   myopathy (advanced age, high doses of steroids).
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2196-6-19**] 11:43 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   Multi Lumen - [**2196-6-10**] 08:00 PM
   Arterial Line - [**2196-6-19**] 06:40 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2196-06-21 07:19:00 Physician Resident Progress Note
MICU Intern Progress Note:
   Chief Complaint:
   24 Hour Events:
   - 4.2L taken on w/ HD
   - spoke to ID about tx for bcg "months and months"
   - attempted NIF but pt would bite down on ET tube
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-6-20**] 04:00 PM
   Rifampin - [**2196-6-20**] 05:38 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Fentanyl - [**2196-6-20**] 08:51 PM
   Midazolam (Versed) - [**2196-6-20**] 10:14 PM
   Heparin Sodium (Prophylaxis) - [**2196-6-21**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-21**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 87 (85 - 102) bpm
   BP: 138/70(96) {49/36(27) - 231/221(227)} mmHg
   RR: 13 (8 - 24) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 660 kg (admission): 90 kg
   Height: 69 Inch
    CVP: 7 (7 - 9)mmHg
   Total In:
                                                                  1,916 mL
                                                                    540 mL
   PO:
   TF:
                                                                    613 mL
                                                                    290 mL
   IVF:
                                                                  1,133 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                    309 mL
                                                                    150 mL
   Urine:
                                                                    309 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,607 mL
                                                                    390 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.48/42/139/28/7
   NIF: -16 cmH2O
   Ve: 6.7 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Intubated, sedated, appears comforatbale, not responding to commands,
   anasarca improved although still significantly volume overloaded. Skin
   breakdown on dorsal upper exts improved.
   Labs / Radiology
   186 K/uL
   6.9 g/dL
   128 mg/dL
   4.1 mg/dL
   28 mEq/L
   4.5 mEq/L
   56 mg/dL
   109 mEq/L
   145 mEq/L
   20.3 %
   4.5 K/uL
        [image002.jpg]
                             [**2196-6-17**]  09:28 AM
                             [**2196-6-17**]  12:34 PM
                             [**2196-6-18**]  05:04 AM
                             [**2196-6-19**]  04:11 AM
                             [**2196-6-19**]  06:40 AM
                             [**2196-6-19**]  03:30 PM
                             [**2196-6-20**]  04:27 AM
                             [**2196-6-20**]  06:11 AM
                             [**2196-6-21**]  03:58 AM
                             [**2196-6-21**]  04:46 AM
   WBC
   6.6
   5.9
   5.3
   4.6
   4.5
   Hct
   24.0
   22.8
   21.4
   23.3
   20.3
   Plt
   146
   177
   179
   215
   186
   Cr
   4.3
   2.2
   3.6
   4.9
   5.7
   4.1
   TCO2
   26
   25
   32
   Glucose
   94
   110
   123
   128
   Other labs: PT / PTT / INR:14.5/40.8/1.3, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:31/40, Alk Phos / T Bili:95/2.8,
   Amylase / Lipase:247/53, Differential-Neuts:82.0 %, Band:4.0 %,
   Lymph:12.6 %, Mono:5.0 %, Eos:0.4 %, Fibrinogen:196 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:273 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   88yM with acute onset of respiratory distress and septic-like shock
   shortly after receiving BCG treatment for bladder cancer secondary to
   either disseminated m.bovis infection vs cytokine-driven
   hypersensitivity reaction.  Continues to be ventilator dependent
   because of volume overload which we are successfully improving with
   HD/UF.
   #. Respiratory Failure:   Initial insult ARDS secondary to the post-BCG
   inflammatory response.  Fluid overload is still his primary barrier to
   extubation.  Currently getting HD every other day and UF on the days in
   between with goal 2-3 L fluid removal daily
off HD yesterday over
   nursing considerations, back on UF/HD today.
   - continue AC ventilation; get NIF this PM
   - continue to remove volume via HD/UF
   - will re-try lightening sedation and moving toward PSV in the upcoming
   days as he approaches euvolemia
   - some urgency to volume removal and extubation given pt
s advanced age
   and prolonged steroid exposure
   #. BCG Reaction: Leukocytosis, fevers resolved, no signs or symptoms of
   any infection.  He is currently on empiric treatment with both
   antibiotics for possible infection and  a steroid taper for possible
   hypersensitivity rxn.  Steroid taper has been accelerated and he will
   be transitioning to 20mg IV tid of hydrocort tomorrow for one
   week
further slow titration to follow: one reported complication of
   fast tapers in this condition is diffuse mbovis granuloma formation
   (per up-to-date)
   - Rifampin + Levofloxacin IV ongoing for possible atypical
   mycobacterial infection; need to determine duration
   - hydrocortisone taper to  20 mg IV TID X 1 WEEK, and subsequnent slow
   taper for a prolonged time
   - Continue Bactrim for PCP [**Name Initial (PRE) 1694**]
   #. Renal Failure:  HD and UF alternating QOD.  He is 5L negative over
   the last two days on current schedule of HD/UF.  UOP still  low, but
   improving daily.
   - Continue HD with minimum 3L fluid removal today alternating with
   ultrafiltration
   - tunnelled line CONVERSION postponed given increase in UOP and
   potential of renal recovery
   # Hypertension:  Stopped hydral as HTN felt to be sedation related.
   Titrate sedation in response to BP as well. Hydral prn if becomes an
   issue with weaning.
   #. Shock Liver:  LFTs improving daily.
   - trend LFTs daily
   # Goals of Care: per last discussion with family, it seems that they
   would not want to pursue trach/peg, making expeditious volume removal
   and subsequent extubation more pressing issues given his risk for
   myopathy (advanced age, high doses of steroids).
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2196-6-21**] 02:26 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   Multi Lumen - [**2196-6-10**] 08:00 PM
   Arterial Line - [**2196-6-19**] 06:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2196-06-22 07:26:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - A-line taken out
   - Sputum sample obtained by RT
   - switched to Levofloxacin po
   - transfused 2 units pRBC for HCT 20
   - family meeting w Ms [**Known lastname 5999**] yesterday
 continue current measures
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-6-20**] 04:00 PM
   Rifampin - [**2196-6-20**] 05:38 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-6-21**] 10:05 PM
   Fentanyl - [**2196-6-22**] 03:57 AM
   Midazolam (Versed) - [**2196-6-22**] 05:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-22**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.8
C (96.5
   HR: 81 (80 - 105) bpm
   BP: 144/87(102) {67/30(45) - 144/87(102)} mmHg
   RR: 13 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 660 kg (admission): 90 kg
   Height: 69 Inch
    CVP: 2 (-1 - 3)mmHg
   Total In:
                                                                  2,489 mL
                                                                    553 mL
   PO:
   TF:
                                                                    974 mL
                                                                    294 mL
   IVF:
                                                                    581 mL
                                                                    185 mL
   Blood products:
                                                                    484 mL
                                                                     73 mL
   Total out:
                                                                  4,163 mL
                                                                     60 mL
   Urine:
                                                                    263 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,674 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 5 L/min
   Physical Examination
   Intubated, sedated, appears comfortable, not responding to commands,
   anasarca improved although still significantly volume overloaded.
   Palpable pulses.
   Labs / Radiology
   166 K/uL
   8.8 g/dL
   113 mg/dL
   4.9 mg/dL
   28 mEq/L
   4.8 mEq/L
   67 mg/dL
   110 mEq/L
   146 mEq/L
   25.7 %
   5.0 K/uL
        [image002.jpg]
                             [**2196-6-17**]  12:34 PM
                             [**2196-6-18**]  05:04 AM
                             [**2196-6-19**]  04:11 AM
                             [**2196-6-19**]  06:40 AM
                             [**2196-6-19**]  03:30 PM
                             [**2196-6-20**]  04:27 AM
                             [**2196-6-20**]  06:11 AM
                             [**2196-6-21**]  03:58 AM
                             [**2196-6-21**]  04:46 AM
                             [**2196-6-22**]  04:00 AM
   WBC
   6.6
   5.9
   5.3
   4.6
   4.5
   5.0
   Hct
   24.0
   22.8
   21.4
   23.3
   20.3
   25.7
   Plt
   146
   177
   179
   [**Telephone/Fax (3) 6404**]
   Cr
   2.2
   3.6
   4.9
   5.7
   4.1
   4.9
   TCO2
   26
   25
   32
   Glucose
   94
   110
   123
   128
   113
   Other labs: PT / PTT / INR:13.7/35.3/1.2, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:30/36, Alk Phos / T Bili:91/2.6,
   Amylase / Lipase:247/53, Differential-Neuts:82.0 %, Band:4.0 %,
   Lymph:12.6 %, Mono:5.0 %, Eos:0.4 %, Fibrinogen:196 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:273 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   88M w bladder cancer s/p BCG therapy c/b acute respiratory distress and
   septic-like shock s/p second BCG instillation, transferred to [**Hospital1 1**]
   [**Hospital Unit Name 10**] w course c/b respiratory failure and renal failure.
   # Acute Respiratory Failure: Etiology initially was ARDS [**2-22**] post-BCG
   inflammatory response (M. bovis sepsis vs cytokine-driven
   hypersensitivity reaction). Pt became fluid overloaded, which is
   currently the primary barrier to extubation.  Currently getting HD
   every other day and UF on the days in between with goal 3-4 L fluid
   removal daily.
   - continue AC ventilation
   - continue to remove volume via HD/UF (HD today)
   - will re-try lightening sedation and moving toward PSV in the upcoming
   days as he approaches euvolemia
   - some urgency to volume removal and extubation given pt
s advanced age
   and prolonged steroid exposure
   - f/u sputum cxs
   # Acute Renal Failure: [**2-22**] ATN from hypotension. Pt on HD and UF
   alternating QOD for volume overload. UOP still  low, but  improving
   daily.
   - Continue HD with 3-4L fluid removal alternating with ultrafiltration
   - HD tunnelled line CONVERSION postponed given increase in UOP and
   potential of ATN resolution and renal recovery
   # BCG Reaction: Pt originally p/w fever, hypotension, leukocytosis,
   which is thought to be either M. bovis sepsis vs BCG hypersensitivity.
   Pt on empiric antibiotics for possible infection and steroid taper for
   possible hypersensitivity rxn. Steroid taper has been accelerated given
   pts advanced age and critical illness.
   - Rifampin + Levofloxacin IV (day 1: [**6-8**]) for possible M. bovis
   infection, prolonged course expected (months per ID)
   - Hydrocortisone taper to  20 mg IV TID ([**Date range (1) 6387**]), and subsequnent slow
   taper for a prolonged time
   - Discontinue Bactrim given drop in WBC/RBC count, switch to dapsone
   100mg daily
   # Hypertension: labile BP in the setting of sedation.
   - monitor pressures
   - off pressors
   # Shock Liver: from hypotension, LFTs improving daily.
   - continue trending LFTs
   # Goals of Care: per last discussion with family, it seems that they
   would not want to pursue trach/peg, making expeditious volume removal
   and subsequent extubation more pressing issues given his risk for
   myopathy (advanced age, high doses of steroids).
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2196-6-22**] 02:06 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   Multi Lumen - [**2196-6-10**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2196-06-23 08:03:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - PS trial unsuccessful - pt w intermittent apnea
   - HD today w removal of 2.7L of fluid, wgt 11kgs decrease since [**6-19**]
   - spiked a fever to 101.1 @ 8pm --> pancultured/CXR, given vanc 1gm x1
   for possible line infection
   - 2 episodes of SVT, hemodynamically stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Rifampin - [**2196-6-20**] 05:38 PM
   Levofloxacin - [**2196-6-22**] 08:00 AM
   Vancomycin - [**2196-6-22**] 08:45 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2196-6-23**] 12:17 AM
   Midazolam (Versed) - [**2196-6-23**] 12:30 AM
   Fentanyl - [**2196-6-23**] 12:30 AM
   Heparin Sodium (Prophylaxis) - [**2196-6-23**] 05:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-23**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.2
   HR: 109 (93 - 114) bpm
   BP: 125/69(83) {94/53(68) - 159/96(100)} mmHg
   RR: 16 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 649 kg (admission): 90 kg
   Height: 69 Inch
    CVP: 14 (7 - 14)mmHg
   Total In:
                                                                  1,934 mL
                                                                    613 mL
   PO:
   TF:
                                                                    961 mL
                                                                    299 mL
   IVF:
                                                                    771 mL
                                                                    274 mL
   Blood products:
                                                                     73 mL
   Total out:
                                                                  2,932 mL
                                                                     32 mL
   Urine:
                                                                    232 mL
                                                                     32 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                    581 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 550) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 7.4 L/min
   Physical Examination
   Intubated and sedated
   Skin warm
   Less edema
   Rhonchi bilaterally
   Tachy, no Murmur
   Labs / Radiology
   166 K/uL
   9.4 g/dL
   97 mg/dL
   2.8 mg/dL
   32 mEq/L
   3.6 mEq/L
   30 mg/dL
   104 mEq/L
   141 mEq/L
   26.8 %
   5.1 K/uL
        [image002.jpg]
                             [**2196-6-18**]  05:04 AM
                             [**2196-6-19**]  04:11 AM
                             [**2196-6-19**]  06:40 AM
                             [**2196-6-19**]  03:30 PM
                             [**2196-6-20**]  04:27 AM
                             [**2196-6-20**]  06:11 AM
                             [**2196-6-21**]  03:58 AM
                             [**2196-6-21**]  04:46 AM
                             [**2196-6-22**]  04:00 AM
                             [**2196-6-23**]  02:09 AM
   WBC
   6.6
   5.9
   5.3
   4.6
   4.5
   5.0
   5.1
   Hct
   24.0
   22.8
   21.4
   23.3
   20.3
   25.7
   26.8
   Plt
   146
   177
   179
   [**Telephone/Fax (3) 6404**]
   166
   Cr
   3.6
   4.9
   5.7
   4.1
   4.9
   2.8
   TCO2
   26
   25
   32
   Glucose
   94
   110
   123
   128
   113
   97
   Other labs: PT / PTT / INR:13.7/32.9/1.2, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:30/36, Alk Phos / T Bili:91/2.6,
   Amylase / Lipase:247/53, Differential-Neuts:74.7 %, Band:4.0 %,
   Lymph:19.1 %, Mono:5.3 %, Eos:0.8 %, Fibrinogen:196 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:273 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   88M w bladder cancer s/p BCG therapy c/b acute respiratory distress and
   septic-like shock s/p second BCG instillation, transferred to [**Hospital1 1**]
   [**Hospital Unit Name 10**] w course c/b respiratory failure and renal failure.
   # FEVER: possible infxn, UA with possible infection, sputum with yeast
   - continuing vanc/levo
   - consider fungal coverage
   - repeat UA with new foley
   - f/u cxs
   # Acute Respiratory Failure: Etiology initially was ARDS [**2-22**] post-BCG
   inflammatory response (M. bovis sepsis vs cytokine-driven
   hypersensitivity reaction), now fluid overload, which is currently the
   primary barrier to extubation. Getting HD every other day and UF on the
   days in between with goal 3-4 L fluid removal daily.
   - continue AC ventilation, attempt to switch to PSV
   - possible SBT if dose well on SBT
   - change sedation back to propofol
   - continue HD with 3-4L fluid removal alternating with ultrafiltration
   - some urgency to volume removal and extubation given pt
s advanced age
   and prolonged steroid exposure
   - f/u sputum cxs
   # Acute Renal Failure: [**2-22**] ATN from hypotension. Pt on HD and UF
   alternating Q other day for volume overload. UOP still  low, but
   improving daily (200-300ml/day).
   - monitor electrolytes, Cr, BUN
   - continue HD with 3-4L fluid removal alternating with ultrafiltration,
   consider less fluid removal since febrile
   - HD tunnelled line CONVERSION postponed given increase in UOP and
   potential of ATN resolution and renal recovery
   # BCG Reaction: Pt originally p/w fever, hypotension, leukocytosis,
   which is thought to be either M. bovis sepsis vs BCG hypersensitivity.
   Pt on empiric antibiotics for possible infection and steroid taper for
   possible hypersensitivity rxn. Steroid taper has been accelerated given
   pts advanced age and critical illness.
   - Rifampin + Levofloxacin (day 1: [**6-8**]) for possible M. bovis
   infection, prolonged course expected (months per ID)
   - Hydrocortisone taper to  20 mg IV TID ([**Date range (1) 6387**]), and subsequnent slow
   taper for a prolonged time
   - on dapsone 100mg daily (Bactrim d/c
d on [**6-21**] given possible
   myelosuppression)
   # Labile blood pressure: likely in the setting of sedation, off
   pressors.
   - monitor pressures
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   Multi Lumen - [**2196-6-10**] 08:00 PM
   -attempt to place PIV
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments: with wife
   [**Name (NI) 129**] status: DNR (do not resuscitate)
   Disposition:

2196-06-24 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Blood culture grew gram + cocci in pairs and clusters, antibiotic
   coverage changed in include zosyn
   - Central line removed, 2 PIV placed
   - Repeat UA showed no yeast
   - Phosphate binder stopped for P of 1.9
   - C. diff negative x 3
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-6-22**] 08:00 AM
   Vancomycin - [**2196-6-22**] 08:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-6-23**] 06:48 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-6-23**] 10:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-24**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 84 (84 - 112) bpm
   BP: 110/66(75) {85/45(53) - 138/87(96)} mmHg
   RR: 22 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 649 kg (admission): 90 kg
   Height: 69 Inch
    CVP: 11 (6 - 13)mmHg
   Total In:
                                                                  2,326 mL
                                                                    341 mL
   PO:
   TF:
                                                                    859 mL
                                                                    156 mL
   IVF:
                                                                  1,257 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                    163 mL
                                                                     85 mL
   Urine:
                                                                    163 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,163 mL
                                                                    256 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: ///30/
   Ve: 5.6 L/min
   Physical Examination
   Gen: Elderly man, intubated, not moving extremities
   HEENT: Pupils pinpoint, sclera anicteric
   CV: RRR, no murmurs
   Lungs: CTAB
   Abd: Minimally distended, soft, faint bowel sounds
   Ext: 2+ edema, warm
   Neuro: Does not arouse to voice or noxious stimuli.  No purposeful
   movements
   Labs / Radiology
   159 K/uL
   8.3 g/dL
   125 mg/dL
   4.0 mg/dL
   30 mEq/L
   4.7 mEq/L
   49 mg/dL
   104 mEq/L
   142 mEq/L
   23.6 %
   4.3 K/uL
        [image002.jpg]
                             [**2196-6-19**]  04:11 AM
                             [**2196-6-19**]  06:40 AM
                             [**2196-6-19**]  03:30 PM
                             [**2196-6-20**]  04:27 AM
                             [**2196-6-20**]  06:11 AM
                             [**2196-6-21**]  03:58 AM
                             [**2196-6-21**]  04:46 AM
                             [**2196-6-22**]  04:00 AM
                             [**2196-6-23**]  02:09 AM
                             [**2196-6-24**]  04:14 AM
   WBC
   5.9
   5.3
   4.6
   4.5
   5.0
   5.1
   4.3
   Hct
   22.8
   21.4
   23.3
   20.3
   25.7
   26.8
   23.6
   Plt
   177
   179
   215
   186
   166
   166
   159
   Cr
   4.9
   5.7
   4.1
   4.9
   2.8
   4.0
   TCO2
   26
   25
   32
   Glucose
   110
   123
   128
   113
   97
   125
   Other labs: PT / PTT / INR:13.0/32.7/1.1, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:30/36, Alk Phos / T Bili:91/2.6,
   Amylase / Lipase:247/53, Differential-Neuts:83.9 %, Band:4.0 %,
   Lymph:12.2 %, Mono:2.9 %, Eos:0.7 %, Fibrinogen:196 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:273 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   88M w bladder cancer s/p BCG therapy c/b acute respiratory distress and
   septic-like shock s/p second BCG instillation, transferred to [**Hospital1 1**]
   [**Hospital Unit Name 10**] w course c/b respiratory failure and renal failure.
   # FEVER: Possible sources include central line, VAP, C. diff,
   continuing reaction to BCG instillation.  Micro to date includes blood
   culture ([**6-23**]) with GPC in pairs and clusters, UA ([**6-23**]) with large leuk
   and few bacteria, sputum gram stain ([**6-23**]) with yeast.  Central line
   removed yesterday, C. diff negative x 3.  CXR without clear
   infiltrate.  Per ID, yeast in sputum is likely colonizer given
   patient
s length of intubation.  Zosyn added to existing antibiotic
   regimen (Vanc, Rifampin, Levofloxacin, Dapsone) for empiric coverage.
   - dose vanco at HD
   - draw cultures off hemodialysis line at HD today
   - f/u final cxs
   - f/u G6PD
   # Acute Respiratory Failure: Etiology initially was ARDS [**2-22**] post-BCG
   inflammatory response (M. bovis sepsis vs cytokine-driven
   hypersensitivity reaction), now fluid overload, which is currently the
   primary barrier to extubation. Getting HD today, UF on alternate days,
   with goal 2 L fluid removal today.  Breathing trial yesterday produced
   tachypnea with RR 35-40.
   - after HD will attempt PS trial
   - continue propofol at 20
   - some urgency to volume removal and extubation given pt
s advanced age
   and prolonged steroid exposure
   - plan for now is to attempt to optimize fluid status till early next
   week, then attempting to come off ventilator.  Will need to clarify
   with family whether they would want re-intubation if this fails.
   - f/u sputum cxs
   # Acute Renal Failure: [**2-22**] ATN from hypotension. Pt on HD and UF
   alternating Q other day for volume overload. UOP still  low.  Patient
   is +19 L for LOS.
   - phosphate binder held and IV sodium phosphate given per renal recs
   - monitor electrolytes, Cr, BUN
   - HD today with goal -2 L
   - HD tunnelled line conversion likely to be necessary given persistent
   low UOP, especially if patient continues to spike fevers and/or have
   positive blood cultures
   # BCG Reaction: Pt originally p/w fever, hypotension, leukocytosis,
   which is thought to be either M. bovis sepsis vs BCG hypersensitivity.
   Pt on empiric antibiotics for possible infection and steroid taper for
   possible hypersensitivity rxn. Steroid taper has been accelerated given
   pts advanced age and critical illness.
   - Rifampin + Levofloxacin (day 1: [**6-8**]) for possible M. bovis
   infection, prolonged course expected (months per ID)
   - Hydrocortisone taper to  20 mg IV TID ([**Date range (1) 6387**]), and subsequnent slow
   taper for a prolonged time
   - on dapsone 100mg daily (Bactrim d/c
d on [**6-21**] given possible
   myelosuppression)
   # Labile blood pressure: likely in the setting of sedation, off
   pressors.
   - monitor pressures
   ICU Care
   Nutrition: continue tube feeds
   Glycemic Control:  insulin sliding scale
   Lines:
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   20 Gauge - [**2196-6-23**] 03:57 PM
   18 Gauge - [**2196-6-23**] 04:13 PM
   Prophylaxis:
   DVT: heparin subq
   Stress ulcer: PPI
   Communication:  with wife
   [**Name (NI) 129**] status: DNR (do not resuscitate)
   Disposition: ICU
   17:03
   ------ Protected Section ------
   Discussed plan and examined patient with medical student. Agree with
   excellent medical student above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 299**] [**Last Name (NamePattern1) 6454**], MD
   on:[**2196-6-24**] 19:30 ------

2196-06-25 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - 2 liters removed during HD for LOS fluid balance now +18 L
   - After HD patient tolerated PS x 12 hours, repeat ABG showed
   7.33/57/129.  Patient placed back on AC early this am.
   - Had preliminary discussion with family re: goals of care.  For now
   the plan is aggressive diuresis to optimize medical condition for
   possible attempted extubation early next week.  Will need to clarify
   whether they would desire re-intubation in event of failure.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-6-22**] 08:00 AM
   Vancomycin - [**2196-6-22**] 08:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-6-24**] 08:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-6-24**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-25**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.5
C (97.7
   HR: 103 (84 - 103) bpm
   BP: 172/84(107) {94/55(63) - 172/84(107)} mmHg
   RR: 24 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 649 kg (admission): 90 kg
   Height: 69 Inch
             Total In:
                                                                  1,446 mL
                                                                    368 mL
   PO:
             TF:
                                                                    715 mL
                                                                    302 mL
   IVF:
                                                                    671 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  2,205 mL
                                                                     29 mL
   Urine:
                                                                    205 mL
                                                                     29 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -759 mL
                                                                    339 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/SIMV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 588 (0 - 600) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 17 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.33/57/129/26/2
   Ve: 6.8 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Gen: Intubated and sedation
   HEENT: PERRL, dry MM
   CV: RRR, no murmurs
   Lungs: CTAB, no w/r/r
   Abd: Soft, non-tender, non-distended, +bowel sounds
   Ext: warm and well-perfused
   Neuro: Does not arouse to voice, withdraws to nox stim
   Labs / Radiology
   165 K/uL
   9.1 g/dL
   104 mg/dL
   2.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   28 mg/dL
   107 mEq/L
   141 mEq/L
   26.9 %
   4.8 K/uL
        [image002.jpg]
                             [**2196-6-19**]  03:30 PM
                             [**2196-6-20**]  04:27 AM
                             [**2196-6-20**]  06:11 AM
                             [**2196-6-21**]  03:58 AM
                             [**2196-6-21**]  04:46 AM
                             [**2196-6-22**]  04:00 AM
                             [**2196-6-23**]  02:09 AM
                             [**2196-6-24**]  04:14 AM
                             [**2196-6-25**]  03:44 AM
                             [**2196-6-25**]  06:04 AM
   WBC
   5.3
   4.6
   4.5
   5.0
   5.1
   4.3
   4.8
   Hct
   21.4
   23.3
   20.3
   25.7
   26.8
   23.6
   26.9
   Plt
   179
   215
   186
   166
   166
   159
   165
   Cr
   5.7
   4.1
   4.9
   2.8
   4.0
   2.5
   TCO2
   25
   32
   31
   Glucose
   123
   128
   113
   97
   125
   104
   Other labs: PT / PTT / INR:12.0/25.4/1.0, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:30/36, Alk Phos / T Bili:91/2.6,
   Amylase / Lipase:247/53, Differential-Neuts:83.9 %, Band:4.0 %,
   Lymph:12.2 %, Mono:2.9 %, Eos:0.7 %, Fibrinogen:196 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:273 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   88M w bladder cancer s/p BCG therapy c/b acute respiratory distress and
   septic-like shock s/p second BCG instillation, transferred to [**Hospital1 1**]
   [**Hospital Unit Name 10**] w course c/b respiratory failure and renal failure.
   # FEVER: Likely source was central line causing bacteremia seen on
   blood cultures yesterday.  Zosyn added empirically to existing
   antibiotic regimen for positive blood cultures.
   - continue vanc, zosyn (for + blood cultures), and rifampin, dapsone,
   levofloxacin (for BCG)
   - f/u cxs, if afebrile and no GNR growth in blood cultures by this
   evening (total of 48 hrs), will d/c zosyn
   - f/u G6PD
   # Acute Respiratory Failure: Etiology initially was ARDS [**2-22**] post-BCG
   inflammatory response (M. bovis sepsis vs cytokine-driven
   hypersensitivity reaction), now fluid overload, which is currently the
   primary barrier to extubation.  Two liters removed on HD yesterday,
   subsequently patient tolerated PS for > 12 hrs before requiring
   conversion to AC.  This morning on PS again.
   - continue propofol at 20
   - PS trial again today
   - some urgency to volume removal and extubation given pt
s advanced age
   and prolonged steroid exposure
   - plan for now is to attempt to optimize fluid status till early next
   week, then attempting to come off ventilator.  Will need to clarify
   with family whether they would want re-intubation if this fails.
   - f/u sputum cxs
   # Acute Renal Failure: [**2-22**] ATN from hypotension. Pt  has been receiving
   HP M/W/F. [**Month/Day (2) 1349**] still low.  Electrolyte values yesterday within normal
   limits.
   - discussed plan for accelerated fluid removal with renal fellow, she
   will arrange for aggressive negative fluid goals at HD Monday with
   possible extra sessions on Monday afternoon and Tuesday
   - monitor electrolytes, Cr, BUN
   - HD tunnelled line conversion likely to be necessary given persistent
   low [**Last Name (LF) 1349**], [**First Name3 (LF) 116**] re-visit issue with family next week follow clarification
   of patient
s respiratory status
   # BCG Reaction: Pt originally p/w fever, hypotension, leukocytosis,
   which is thought to be either M. bovis sepsis vs BCG hypersensitivity.
   Pt on empiric antibiotics for possible infection and steroid taper for
   possible hypersensitivity rxn. Steroid taper has been accelerated given
   pts advanced age and critical illness.
   - Rifampin, Levofloxacin, Dapsone for possible M. bovis infection,
   prolonged course expected (months per ID)
   - Hydrocortisone taper to  20 mg IV TID ([**Date range (1) 6387**]), and subsequnent slow
   taper for a prolonged time
   ICU Care
   Nutrition:  TF, Nutren 2.0 (Full) - [**2196-6-25**] 03:58 AM 40 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   20 Gauge - [**2196-6-23**] 03:57 PM
   18 Gauge - [**2196-6-23**] 04:13 PM
   Prophylaxis:
   DVT: heparin subq
   Stress ulcer: PPI
   VAP: oral care
   Communication:  with family
   Code status: DNR (do not resuscitate)
   Disposition: ICU level of care
   11:04
   ------ Protected Section ------
   Agree w excellent note as discussed on rounds.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3689**] [**Name8 (MD) 3536**], MD
   on:[**2196-6-25**] 11:29 ------

2196-06-26 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ID - d/c zosyn, cont vanc for 14-d total, signed off
   - renal - HD monday
   - PSV all day [**12-24**]
   - cath tip grew --> coag neg Staph
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-6-24**] 08:00 PM
   Piperacillin - [**2196-6-25**] 08:12 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2196-6-25**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2196-6-26**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-26**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 90 (90 - 104) bpm
   BP: 119/66(77) {73/48(54) - 134/84(94)} mmHg
   RR: 16 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 90 kg
   Height: 69 Inch
             Total In:
                                                                  1,280 mL
                                                                    331 mL
   PO:
             TF:
                                                                    960 mL
                                                                    275 mL
   IVF:
                                                                    250 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                    134 mL
                                                                     30 mL
   Urine:
                                                                    134 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,146 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 891 (391 - 891) mL
   PS : 12 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 7.4 L/min
   Physical Examination
   Gen: Intubated and sedation
   HEENT: PERRL, dry MM
   CV: RRR, no murmurs
   Lungs: CTAB, no w/r/r
   Abd: Soft, non-tender, non-distended, +bowel sounds
   Ext: warm and well-perfused
   Neuro: Does not arouse to voice, withdraws to nox stim
   Labs / Radiology
   200 K/uL
   8.3 g/dL
   103 mg/dL
   3.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   44 mg/dL
   107 mEq/L
   143 mEq/L
   24.0 %
   3.6 K/uL
        [image002.jpg]
                             [**2196-6-20**]  04:27 AM
                             [**2196-6-20**]  06:11 AM
                             [**2196-6-21**]  03:58 AM
                             [**2196-6-21**]  04:46 AM
                             [**2196-6-22**]  04:00 AM
                             [**2196-6-23**]  02:09 AM
                             [**2196-6-24**]  04:14 AM
                             [**2196-6-25**]  03:44 AM
                             [**2196-6-25**]  06:04 AM
                             [**2196-6-26**]  03:19 AM
   WBC
   4.6
   4.5
   5.0
   5.1
   4.3
   4.8
   3.6
   Hct
   23.3
   20.3
   25.7
   26.8
   23.6
   26.9
   24.0
   Plt
   [**Telephone/Fax (3) 6493**]66
   159
   165
   200
   Cr
   5.7
   4.1
   4.9
   2.8
   4.0
   2.5
   3.6
   TCO2
   25
   32
   31
   Glucose
   123
   128
   113
   97
   125
   104
   103
   Other labs: PT / PTT / INR:12.3/26.4/1.0, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:30/36, Alk Phos / T Bili:91/2.6,
   Amylase / Lipase:247/53, Differential-Neuts:83.9 %, Band:4.0 %,
   Lymph:12.2 %, Mono:2.9 %, Eos:0.7 %, Fibrinogen:196 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:273 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   88M w bladder cancer s/p BCG therapy c/b acute respiratory distress and
   septic-like shock s/p second BCG instillation, transferred to [**Hospital1 1**]
   [**Hospital Unit Name 10**] w course c/b respiratory failure and renal failure.
   # FEVER: Likely source was central line causing bacteremia seen on
   blood cultures yesterday.  Zosyn added empirically to existing
   antibiotic regimen for positive blood cultures.
   - continue vanc, zosyn (for + blood cultures), and rifampin, dapsone,
   levofloxacin (for BCG)
   - f/u cxs, if afebrile and no GNR growth in blood cultures by this
   evening (total of 48 hrs), will d/c zosyn
   - f/u G6PD
   # Acute Respiratory Failure: Etiology initially was ARDS [**2-22**] post-BCG
   inflammatory response (M. bovis sepsis vs cytokine-driven
   hypersensitivity reaction), now fluid overload, which is currently the
   primary barrier to extubation.  Two liters removed on HD yesterday,
   subsequently patient tolerated PS for > 12 hrs before requiring
   conversion to AC.  This morning on PS again.
   - continue propofol at 20
   - PS trial again today
   - some urgency to volume removal and extubation given pt
s advanced age
   and prolonged steroid exposure
   - plan for now is to attempt to optimize fluid status till early next
   week, then attempting to come off ventilator.  Will need to clarify
   with family whether they would want re-intubation if this fails.
   - f/u sputum cxs
   # Acute Renal Failure: [**2-22**] ATN from hypotension. Pt  has been receiving
   HP M/W/F. [**Month/Day (2) 1349**] still low.  Electrolyte values yesterday within normal
   limits.
   - discussed plan for accelerated fluid removal with renal fellow, she
   will arrange for aggressive negative fluid goals at HD Monday with
   possible extra sessions on Monday afternoon and Tuesday
   - monitor electrolytes, Cr, BUN
   - HD tunnelled line conversion likely to be necessary given persistent
   low [**Last Name (LF) 1349**], [**First Name3 (LF) 116**] re-visit issue with family next week follow clarification
   of patient
s respiratory status
   # BCG Reaction: Pt originally p/w fever, hypotension, leukocytosis,
   which is thought to be either M. bovis sepsis vs BCG hypersensitivity.
   Pt on empiric antibiotics for possible infection and steroid taper for
   possible hypersensitivity rxn. Steroid taper has been accelerated given
   pts advanced age and critical illness.
   - Rifampin, Levofloxacin, Dapsone for possible M. bovis infection,
   prolonged course expected (months per ID)
   - Hydrocortisone taper to  20 mg IV TID ([**Date range (1) 6387**]), and subsequnent slow
   taper for a prolonged time
   ICU Care
   Nutrition:  TF, Nutren 2.0 (Full) - [**2196-6-25**] 03:58 AM 40 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   20 Gauge - [**2196-6-23**] 03:57 PM
   18 Gauge - [**2196-6-23**] 04:13 PM
   Prophylaxis:
   DVT: heparin subq
   Stress ulcer: PPI
   VAP: oral care
   Communication:  with family
   Code status: DNR (do not resuscitate)
   Disposition: ICU level of care

2196-06-27 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2196-6-26**] 12:37 PM
   [**6-26**]
   -family want to meet on Monday at 3pm, with team member, and Dr. [**First Name (STitle) **],
   she will bring her pastor
   -renal recs to continue HD
   -blood cx to be collected with HD on Monday
   -G6PD- still pending
   -check vanco [**6-27**] trough
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-6-24**] 08:00 PM
   Piperacillin - [**2196-6-25**] 08:12 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-6-27**] 06:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-27**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 90 (89 - 100) bpm
   BP: 129/76(89) {111/59(68) - 130/81(91)} mmHg
   RR: 11 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.1 kg (admission): 90 kg
   Height: 69 Inch
             Total In:
                                                                  1,411 mL
                                                                    354 mL
   PO:
             TF:
                                                                  1,106 mL
                                                                    294 mL
   IVF:
                                                                    215 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                    282 mL
                                                                    115 mL
   Urine:
                                                                    282 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,129 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 699 (364 - 699) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 8.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   253 K/uL
   7.8 g/dL
   103 mg/dL
   3.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   44 mg/dL
   107 mEq/L
   143 mEq/L
   23.4 %
   3.9 K/uL
        [image002.jpg]
                             [**2196-6-20**]  06:11 AM
                             [**2196-6-21**]  03:58 AM
                             [**2196-6-21**]  04:46 AM
                             [**2196-6-22**]  04:00 AM
                             [**2196-6-23**]  02:09 AM
                             [**2196-6-24**]  04:14 AM
                             [**2196-6-25**]  03:44 AM
                             [**2196-6-25**]  06:04 AM
                             [**2196-6-26**]  03:19 AM
                             [**2196-6-27**]  05:57 AM
   WBC
   4.5
   5.0
   5.1
   4.3
   4.8
   3.6
   3.9
   Hct
   20.3
   25.7
   26.8
   23.6
   26.9
   24.0
   23.4
   Plt
   186
   166
   166
   159
   165
   200
   253
   Cr
   4.1
   4.9
   2.8
   4.0
   2.5
   3.6
   TCO2
   25
   32
   31
   Glucose
   128
   113
   97
   125
   104
   103
   Other labs: PT / PTT / INR:12.3/26.4/1.0, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:30/36, Alk Phos / T Bili:91/2.6,
   Amylase / Lipase:247/53, Differential-Neuts:83.9 %, Band:4.0 %,
   Lymph:12.2 %, Mono:2.9 %, Eos:0.7 %, Fibrinogen:196 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:273 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan ([**6-26**])
   88M w bladder cancer s/p BCG therapy c/b acute respiratory distress and
   septic-like shock s/p second BCG instillation, transferred to [**Hospital1 1**]
   [**Hospital Unit Name 10**] w course c/b respiratory failure and renal failure.
   # Fever: Likely [**2-22**] coag-neg Staph central line infxn. Continuing to
   have fevers.
   - continue vancomycin x 14 days on HD protocol
   - ntinue vanc, zosyn (for + blood cultures), and rifampin, dapsone,
   levofloxacin (for BCG)
   - f/u G6PD
   - f/u cultures
   - may need to remove HD line
   - will restart zosyn
   # Acute Respiratory Failure: Etiology initially was ARDS [**2-22**] post-BCG
   inflammatory response (M. bovis sepsis vs cytokine-driven
   hypersensitivity reaction), now fluid overload, which is currently the
   primary barrier to extubation.  Had to change vent off PS due to low
   minute ventilation. Also now requiring increased propofol, unclear why,
   may be related to infection.
   - continue on propofol at 40, try to wean
   - continuing volume removal with HD
   - plan for now is to attempt to optimize fluid status till early next
   week, then attempting to come off ventilator.  Will need to clarify
   with family whether they would want re-intubation if this fails, family
   meeting today
   - f/u sputum cxs
   # Acute Renal Failure: [**2-22**] ATN from hypotension. Pt  has been receiving
   HP M/W/F. [**Month/Day (2) 1349**] still low.  Electrolyte values yesterday within normal
   limits.
   - discussed plan for accelerated fluid removal with renal fellow, she
   will arrange for aggressive negative fluid goals at HD Monday with
   possible extra sessions on Monday afternoon and Tuesday
   - monitor electrolytes, Cr, BUN
   - HD tunnelled line conversion likely to be necessary given persistent
   low [**Last Name (LF) 1349**], [**First Name3 (LF) 116**] re-visit issue with family next week follow clarification
   of patient
s respiratory status
   -may need line exchange due to continued fevers
   # BCG Reaction: Pt originally p/w fever, hypotension, leukocytosis,
   which is thought to be either M. bovis sepsis vs BCG hypersensitivity.
   Pt on empiric antibiotics for possible infection and steroid taper for
   possible hypersensitivity rxn. Steroid taper has been accelerated given
   pts advanced age and critical illness.
   - Rifampin, Levofloxacin, Dapsone for possible M. bovis infection,
   prolonged course expected (months per ID)
   - Hydrocortisone taper to  20 mg IV TID ([**Date range (1) 6387**]), and subsequnent slow
   taper for a prolonged time
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2196-6-27**] 12:25 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   20 Gauge - [**2196-6-26**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: Family meeting today to discuss goals of care and
   extubation plan.

2196-06-28 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2196-6-27**] 02:16 PM
   [**6-27**]
   - family meeting
   - Pt made CMO, extubated and placed on Morphine gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2196-6-25**] 08:12 AM
   Vancomycin - [**2196-6-27**] 12:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-6-27**] 03:11 PM
   Ciprofloxacin - [**2196-6-27**] 09:41 PM
   Infusions:
   Morphine Sulfate - 27 mg/hour
   Other ICU medications:
   Fentanyl - [**2196-6-27**] 11:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-6-28**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 109 (90 - 120) bpm
   BP: 89/53(62) {67/32(41) - 149/86(110)} mmHg
   RR: 7 (6 - 23) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.1 kg (admission): 90 kg
   Height: 69 Inch
             Total In:
                                                                  2,541 mL
                                                                    173 mL
   PO:
             TF:
                                                                  1,057 mL
   IVF:
                                                                  1,434 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  2,195 mL
                                                                     32 mL
   Urine:
                                                                    195 mL
                                                                     32 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    346 mL
                                                                    141 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 360) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 93%
   ABG: 7.46/38/116//3
   Ve: 6.8 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Gen: Intubated and sedated
   HEENT: PERRL, dry MM
   CV: RRR, no murmurs
   Lungs: CTAB, no w/r/r, periods of apnea
   Abd: Soft, non-tender, non-distended, +bowel sounds
   Ext: warm and well-perfused
   Neuro: Does not arouse to voice, withdraws to nox stim
   Labs / Radiology
   253 K/uL
   7.8 g/dL
   122 mg/dL
   4.4 mg/dL
   25 mEq/L
   3.7 mEq/L
   61 mg/dL
   105 mEq/L
   142 mEq/L
   23.4 %
   3.9 K/uL
        [image002.jpg]
                             [**2196-6-21**]  03:58 AM
                             [**2196-6-21**]  04:46 AM
                             [**2196-6-22**]  04:00 AM
                             [**2196-6-23**]  02:09 AM
                             [**2196-6-24**]  04:14 AM
                             [**2196-6-25**]  03:44 AM
                             [**2196-6-25**]  06:04 AM
                             [**2196-6-26**]  03:19 AM
                             [**2196-6-27**]  05:57 AM
                             [**2196-6-27**]  02:06 PM
   WBC
   4.5
   5.0
   5.1
   4.3
   4.8
   3.6
   3.9
   Hct
   20.3
   25.7
   26.8
   23.6
   26.9
   24.0
   23.4
   Plt
   186
   166
   166
   159
   165
   200
   253
   Cr
   4.1
   4.9
   2.8
   4.0
   2.5
   3.6
   4.4
   TCO2
   32
   31
   28
   Glucose
   128
   113
   97
   125
   104
   103
   122
   Other labs: PT / PTT / INR:12.3/26.4/1.0, CK / CKMB /
   Troponin-T:301/7/0.05, ALT / AST:30/36, Alk Phos / T Bili:91/2.6,
   Amylase / Lipase:247/53, Differential-Neuts:83.9 %, Band:4.0 %,
   Lymph:12.2 %, Mono:2.9 %, Eos:0.7 %, Fibrinogen:196 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:273 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.6 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan ([**6-26**])
   88M w bladder cancer s/p BCG therapy c/b acute respiratory distress and
   septic-like shock s/p second BCG instillation, transferred to [**Hospital1 1**]
   [**Hospital Unit Name 10**] w course c/b respiratory failure and renal failure.
   # Fever: Likely [**2-22**] coag-neg Staph central line infxn. Continuing to
   have fevers.
   - continue vancomycin x 14 days on HD protocol
   - ntinue vanc, zosyn (for + blood cultures), and rifampin, dapsone,
   levofloxacin (for BCG)
   - f/u G6PD
   - f/u cultures
   - may need to remove HD line
   - will restart zosyn
   # Acute Respiratory Failure: Etiology initially was ARDS [**2-22**] post-BCG
   inflammatory response (M. bovis sepsis vs cytokine-driven
   hypersensitivity reaction), now fluid overload, which is currently the
   primary barrier to extubation.  Had to change vent off PS due to low
   minute ventilation. Also now requiring increased propofol, unclear why,
   may be related to infection.
   - continue on propofol at 40, try to wean
   - continuing volume removal with HD
   - plan for now is to attempt to optimize fluid status till early next
   week, then attempting to come off ventilator.  Will need to clarify
   with family whether they would want re-intubation if this fails, family
   meeting today
   - f/u sputum cxs
   # Acute Renal Failure: [**2-22**] ATN from hypotension. Pt  has been receiving
   HP M/W/F. [**Month/Day (2) 1349**] still low.  Electrolyte values yesterday within normal
   limits.
   - discussed plan for accelerated fluid removal with renal fellow, she
   will arrange for aggressive negative fluid goals at HD Monday with
   possible extra sessions on Monday afternoon and Tuesday
   - monitor electrolytes, Cr, BUN
   - HD tunnelled line conversion likely to be necessary given persistent
   low [**Last Name (LF) 1349**], [**First Name3 (LF) 116**] re-visit issue with family next week follow clarification
   of patient
s respiratory status
   -may need line exchange due to continued fevers
   # BCG Reaction: Pt originally p/w fever, hypotension, leukocytosis,
   which is thought to be either M. bovis sepsis vs BCG hypersensitivity.
   Pt on empiric antibiotics for possible infection and steroid taper for
   possible hypersensitivity rxn. Steroid taper has been accelerated given
   pts advanced age and critical illness.
   - Rifampin, Levofloxacin, Dapsone for possible M. bovis infection,
   prolonged course expected (months per ID)
   - Hydrocortisone taper to  20 mg IV TID ([**Date range (1) 6387**]), and subsequnent slow
   taper for a prolonged time
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2196-6-27**] 12:25 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2196-6-10**] 08:00 PM
   20 Gauge - [**2196-6-26**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: